2109-11-04 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2109-11-3**] 11:31 PM
   placed in OSH.
 EKG - At [**2109-11-3**] 11:43 PM
 ARTERIAL LINE - START [**2109-11-4**] 12:00 AM
 INVASIVE VENTILATION - START [**2109-11-4**] 12:05 AM
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-4**] 06:07 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Phenylephrine - 3 mcg/Kg/min
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Other medications:
   ISS
   Vasopression
   Norepi
   Gentamicin
   Cipro
   Neutral-phos
   Pantoprazole
   Chlorhexicine
   Acethylcycteine
   Zosyn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-4**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 87 (87 - 152) bpm
   BP: 102/48(66) {78/34(47) - 117/51(69)} mmHg
   RR: 23 (22 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 10 (10 - 10)mmHg
   Total In:
                                                                  2,000 mL
                                                                  5,651 mL
   PO:
   TF:
   IVF:
                                                                  2,000 mL
                                                                  2,651 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,155 mL
   Urine:
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,000 mL
                                                                  4,496 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80% (59-100)
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 100%
   ABG: 7.35/44/138/26/-1
   Ve: 12.7 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Thin, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Extremities: BL 1+ edema, warm ext
   Skin:  Cool, levido reticularis
   Neurologic: Intubated and sedated. Non-responsive to painful stimuli.
   Tone: Not assessed
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   358 K/uL
   9.3 g/dL
   467 mg/dL
   2.4 mg/dL
   26 mEq/L
   3.4 mEq/L
   52 mg/dL
   102 mEq/L
   135 mEq/L
   27.9 %
   26.5 K/uL
        [image002.jpg]
   WBC 16 to 26.5
   HCT: 35.3 to 27.9
   Cr 2.4 to 2.4
   UA mod leuk, 139 RBC, 16 WBC, few bac
   Micro: blood 12/14 GNR, urine [**11-3**] and [**11-4**] pending
   Cdiff negative
   Sputum [**9-14**] PMNS, no organisms
                            [**2109-11-3**]  11:50 PM
                            [**2109-11-4**]  12:47 AM
                            [**2109-11-4**]  02:35 AM
                            [**2109-11-4**]  04:05 AM
   WBC
   26.5
   Hct
   27.9
   Plt
   358
   Cr
   2.4
   TCO2
   13
   18
   25
   Glucose
   467
   Other labs: PT / PTT / INR:15.4/33.2/1.4, ALT / AST:29/38, Alk Phos / T
   Bili:127/3.3, Differential-Neuts:93.8 %, Lymph:3.3 %, Mono:2.5 %,
   Eos:0.1 %, Lactic Acid:1.8 mmol/L, Albumin:1.9 g/dL, LDH:215 IU/L,
   Ca++:6.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   84 yoM with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   : worsening acidosis with rising lactate. GNR now growing in blood.
   Most likely source is liver. Urine also possible. Obstructive pattern
   on LFTs but no intra or extrahepatic biliary ductal dilation suggesting
   etiology from hepatocyte injury rather than obstruction.  On broad
   spectrum antibiotics. Went for IR drainage of liver abcess today,
   drainage of 60cc of purulent material.
   - cont broad spectrum abx: Switched from  vanco, zosyn, flagyl (for
   possible C diff) to Zosyn, cipro, gent per ID recs.
   - IVF gor CVP minimum [**7-2**]. Can use D5W w/ 150 meq of bicarb until
   acidosis improved
   -Currently on Levophend and Neo to maintain MAP > 65, plan to add
   vasopressin next if necessary.
   - follow central venous O2 sats
   - s/p IR CT guided drainage with 60 cc purulent fluid. F/u cult,
   cytology.
   - ERCP fellow aware but unlikely to require intervention as no biliry
   dilation
   -Blood growing GNR, awaiting speciation, F/u , urine, sputum
   -C diff negative x1
   - hold off on steroids as septic and APC since s/p IR procedure, risk
   for bleeding.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : likely due to flash pulmonary edema given underlying cardiomyopathy,
   tachycardia, and sepsis.
   - wean vent support as tolerated
   - VAP ppx
   .
   # liver mass. Unclear etiology. ? abscess vs malignancy. Had cyst in
   similar location. ? now super infected.
   - Continue broad spectrum antibiotics
   - f/u cultures as above
   - Hepatitis serologies negative, AFP WNL
   - hepatology consult appreciated, sent Aoemba and Echinococcus serology
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF:. Likely related to
   overwhelming infection and hypovolemia. Continue to trend with
   treatment of infection and volume rescucitation.
   - IVF as above
   - follow UOP
   .
   # Anemia. Likely anemia of chronic disease. Worsened with dilution from
   massive fluid resesitation.
   - Active type and screen
   - serial Hcts
   .
   # NSTEMI: . Doubt acute plaque rupture physiology. Likely demand in the
   setting of acute illness with hypovolemia and poor clearance in the
   setting of acute renal failure. Troponins continue to rise
   -          trend CEs
   -          unable to anticoagulate with IR procedure.
   -          Unable to give BB, ACE in setting of hypotension
   -          Holding ASA with IR procedure consider restarting tomorrow.
   .
   # chronic systolic CHF, EF 40%. Echo today with EF 30-35%. Mod LV
   dysfxn with hypokinesis of distal septum. Possible acute change in
   setting of demand ischemia vs cardiac stunning in setting of septic
   shock. Hold home aspirin in the setting of IR procedure
   - Hold home BP meds in the setting of sepsis
   - Hold statin in the setting of liver disease.
   .
   # Hypertension. As above, holding home antihypertensives.
   .
   # PVD. Temporarily holding aspirin.
   .
   #
 HYPERGLYCEMIA
   DM II.   Was on insulin gtt , switched to ISS
   .
   # Gout. Hold home allopurinol and will follow
   .
   # FEN: NPO for now
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: Peripheral IV. R subclavian CVL placed at OSH
   - resite line
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL. Confirmed with patient and hi some.
   .
   # Dispo: ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2109-11-3**] 11:31 PM
   20 Gauge - [**2109-11-3**] 11:31 PM
   Arterial Line - [**2109-11-4**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-05 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2109-11-4**] 09:53 AM
 BLOOD CULTURED - At [**2109-11-4**] 03:00 PM
 STOOL CULTURE - At [**2109-11-4**] 05:42 PM
 MULTI LUMEN - START [**2109-11-4**] 08:32 PM
 MULTI LUMEN - STOP [**2109-11-4**] 10:37 PM
   placed in OSH.
   Placed new L IJ
   IR drainage of liver abcess with 60 cc pus
   Abx now on zosyn, cipro, gent
   Still on Levophen, neo overnight
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2109-11-4**] 08:10 AM
   Ciprofloxacin - [**2109-11-4**] 05:05 PM
   Gentamicin - [**2109-11-4**] 05:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-5**] 12:05 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2109-11-4**] 01:22 PM
   Fentanyl - [**2109-11-4**] 01:42 PM
   Metoprolol - [**2109-11-4**] 01:44 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-5**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-5**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.4
C (97.6
   HR: 78 (72 - 139) bpm
   BP: 127/40(63) {87/34(40) - 130/49(71)} mmHg
   RR: 26 (16 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (8 - 53)mmHg
   Total In:
                                                                 10,553 mL
                                                                    440 mL
   PO:
   TF:
   IVF:
                                                                  7,463 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    400 mL
   Urine:
                                                                  1,225 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
                                                                     60 mL
   Balance:
                                                                  8,368 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.34/31/131/18/-7
   Ve: 12.8 L/min
   PaO2 / FiO2: 262
   Physical Examination
   General Appearance: sedated
   Eyes / Conjunctiva: arcus senilis
   Head, Ears, Nose, Throat: NCAT,
   Cardiovascular: (S1: Normal), (S2: Normal), + murmur
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   dopplerable
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Extremities: BL 1+ edema, warm ext
   Skin:  warm, mild levido reticularis around hands, feet
   Neurologic: Intubated and sedated. Non-responsive to painful stimuli.
   Tone: Not assessed
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   336 K/uL
   9.7 g/dL
   239 mg/dL
   2.3 mg/dL
   18 mEq/L
   4.3 mEq/L
   38 mg/dL
   107 mEq/L
   136 mEq/L
   28.9 %
   23.5 K/uL
        [image002.jpg]
                            [**2109-11-4**]  02:35 AM
                            [**2109-11-4**]  04:05 AM
                            [**2109-11-4**]  07:59 AM
                            [**2109-11-4**]  08:07 AM
                            [**2109-11-4**]  10:36 AM
                            [**2109-11-4**]  02:49 PM
                            [**2109-11-4**]  04:38 PM
                            [**2109-11-4**]  04:53 PM
                            [**2109-11-4**]  09:21 PM
                            [**2109-11-5**]  03:00 AM
   WBC
   26.5
   29.8
   23.5
   Hct
   27.9
   31.4
   28.9
   Plt
   358
   364
   336
   Cr
   2.4
   2.4
   2.2
   2.3
   TropT
   0.84
   TCO2
   25
   23
   23
   21
   20
   19
   17
   Glucose
   467
   214
   185
   239
   Other labs: PT / PTT / INR:15.4/33.2/1.4, CK / CKMB /
   Troponin-T:231/24/0.84, ALT / AST:33/64, Alk Phos / T Bili:126/3.7,
   Differential-Neuts:93.8 %, Lymph:3.3 %, Mono:2.5 %, Eos:0.1 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:284 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   84 yoM with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   : worsening acidosis with rising lactate. GNR now growing in blood.
   Most likely source is liver. Urine also possible. Obstructive pattern
   on LFTs but no intra or extrahepatic biliary ductal dilation suggesting
   etiology from hepatocyte injury rather than obstruction.  On broad
   spectrum antibiotics. Went for IR drainage of liver abcess today,
   drainage of 60cc of purulent material.
   - cont broad spectrum abx: Switched from  vanco, zosyn, flagyl (for
   possible C diff) to Zosyn, cipro, gent per ID recs.
   - IVF gor CVP minimum [**7-2**]. Use D5W w/ 150 meq of bicarb until acidosis
   improved
   -Maintained on Levophend (low dose) and d/c
d Neo with MAPS > 65
   - follow central venous O2 sats
   - s/p IR CT guided drainage with 60 cc purulent fluid
 blood cult
   GNRs, abcess PMNs with no bacteria yet
   - ERCP fellow aware
 no intervention
   -Blood growing GNR, awaiting speciation, F/u , urine, sputum
 will
   send cx of abcess drainage
   -C diff negative x1
   - hold off on steroids as septic and APC since s/p IR procedure, risk
   for bleeding.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : likely due to flash pulmonary edema given underlying cardiomyopathy,
   tachycardia, and sepsis, possible element of ARDS
   - wean vent support as tolerated
   - VAP ppx
   .
   # Liver mass. Unclear etiology -> appears to be an abcess based on IR
   drainage
   - Continue broad spectrum antibiotics until further
   speciation/senstivities
   - f/u cultures
   - Hepatitis serologies negative, AFP WNL
   - hepatology consult appreciated, sent Aoemba and Echinococcus serology
   -pend
   .
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF:. Likely related to
   overwhelming infection and hypovolemia. Continue to trend with
   treatment of infection and volume rescucitation.
   - IVF as above
   - follow UOP
   .
   # Anemia. Likely anemia of chronic disease. Worsened with dilution from
   massive fluid resuscitation.
   - Active type and screen
   - serial Hcts
 stable [**11-5**]
   .
   # NSTEMI: . Doubt acute plaque rupture physiology. Likely demand in the
   setting of acute illness with hypovolemia and poor clearance in the
   setting of acute renal failure. Troponins continue to rise
   -trend CEs
   -unable to anticoagulate with IR procedure
   -Unable to give BB, ACE in setting of hypotension
   -Held ASA for IR procedure will restart today
   .
   # chronic systolic CHF, EF 40%. Echo today with EF 30-35%. Mod LV
   dysfxn with hypokinesis of distal septum. Possible acute change in
   setting of demand ischemia vs cardiac stunning in setting of septic
   shock. Hold home aspirin in the setting of IR procedure
   - Hold home BP meds in the setting of sepsis
   - Hold statin in the setting of liver disease.
   -will redo echo when pt is more stable to assess for any functional
   changes
   .
   # Hypertension. As above, holding home antihypertensives.
   .
   # PVD. Temporarily holding aspirin.
   .
   #
 HYPERGLYCEMIA
 FSBG in 200s.
   DM II.  Will place on insulin gtt
   .
   # Gout. Hold home allopurinol and will follow
   .
   # FEN: NPO for now
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: Peripheral IV. R subclavian CVL placed at OSH
   - resite line
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL. Confirmed with patient and hi some.
   .
   # Dispo: ICU
   .
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-3**] 11:31 PM
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-06 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2109-11-5**] 02:20 PM
 WOUND CULTURE - At [**2109-11-5**] 02:20 PM
   drain culture
   - cx still pend
   - became hypotensive later in PM
 started requiring fluid boluses
   eventually started back on pressors
 Neosynephrine (b/c of
   tachycardia)
   - seen by liver
 serial imaging, follow cx, cont abx
   - ID awaiting cx data, cont abx
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2109-11-4**] 08:10 AM
   Gentamicin - [**2109-11-4**] 05:05 PM
   Ciprofloxacin - [**2109-11-5**] 04:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-6**] 12:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Phenylephrine - 1.1 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2109-11-5**] 02:30 PM
   Dextrose 50% - [**2109-11-5**] 09:10 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-6**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.9
   HR: 87 (78 - 130) bpm
   BP: 90/36(54) {80/33(46) - 149/53(79)} mmHg
   RR: 26 (21 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (10 - 27)mmHg
   Total In:
                                                                  3,504 mL
                                                                  1,592 mL
   PO:
   TF:
   IVF:
                                                                  3,394 mL
                                                                  1,592 mL
   Blood products:
   Total out:
                                                                  1,268 mL
                                                                    215 mL
   Urine:
                                                                  1,153 mL
                                                                    135 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
                                                                    115 mL
                                                                     30 mL
   Balance:
                                                                  2,236 mL
                                                                  1,377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   SpO2: 97%
   ABG: 7.25/34/165/16/-11
   Ve: 11.9 L/min
   PaO2 / FiO2: 330
   Physical Examination
   General Appearance: sedated but wakes to voice, not responding to
   commands
   Eyes / Conjunctiva: anisosocoria, arcus senilis
   Cardiovascular: RRR S1S2 2/6 SEM
   Respiratory / Chest: bilateral rhonchorous
   Extremities: BL 1+ edema, warm ext
   Skin:  warm, mild levido reticularis around hands, feet
   Neurologic: Intubated and sedated. Non-responsive to painful stimuli.
   Tone: normal throughout;
   Labs / Radiology
   372 K/uL
   8.6 g/dL
   129 mg/dL
   2.4 mg/dL
   16 mEq/L
   4.2 mEq/L
   32 mg/dL
   115 mEq/L
   140 mEq/L
   26.3 %
   24.1 K/uL
        [image002.jpg]
                            [**2109-11-4**]  10:36 AM
                            [**2109-11-4**]  02:49 PM
                            [**2109-11-4**]  04:38 PM
                            [**2109-11-4**]  04:53 PM
                            [**2109-11-4**]  09:21 PM
                            [**2109-11-5**]  03:00 AM
                            [**2109-11-5**]  03:11 PM
                            [**2109-11-5**]  05:29 PM
                            [**2109-11-6**]  03:42 AM
                            [**2109-11-6**]  03:56 AM
   WBC
   29.8
   23.5
   24.1
   Hct
   31.4
   28.9
   26.1
   26.3
   Plt
   364
   336
   372
   Cr
   2.2
   2.3
   2.3
   2.4
   TropT
   0.81
   TCO2
   23
   21
   20
   19
   17
   20
   16
   Glucose
   185
   239
   143
   129
   Other labs: PT / PTT / INR:16.0/38.5/1.4, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:33/64, Alk Phos / T Bili:126/3.7,
   Differential-Neuts:93.8 %, Lymph:3.3 %, Mono:2.5 %, Eos:0.1 %, Lactic
   Acid:1.0 mmol/L, Albumin:2.0 g/dL, LDH:284 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   84 yoM with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   : GNR growing in blood, most likely source being his liver abscess.
   Overnight the patient became hypotensive again and not responsive to
   fluids, and was placed back on neosynephrine. Will switch to levo today
   and continue to monitor hemodynamics. Outside hospital records
   yesterday reported Klebsiella bacteremia; ID was notified but felt it
   would not change management at this point, as we are waiting for
   cultures here.
   - Switched to cipro and zosyn
   - For CVP of [**7-2**], use D5W w/ 150 meq of bicarb until acidosis improved
   - and Levophed (preferably)
   - follow central venous O2 sats
   - f/u IR evaluation for possible drainage of caudal lobe
   abscess/loculation
   - f/u surgery recs
   -f/u cultures
   -C diff negative, Ova and parasite negative
   -follow LFTs
   -TEE for possible endocarditis as nidus of infection
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : likely secondary to  flash pulmonary edema initially, given
   underlying cardiomyopathy, tachycardia, and sepsis; however cannot
   exclude ARDS
   - will hold off on weaning off vent at this time given hemodynamic
   instability
   - VAP ppx
   .
   # Liver abscess. Post-drain placement by IR. Per surgery may have other
   areas of loculation in caudate. Will go down to IR to evaluate for any
   other areas that may be amenable to drainage. If not, surgery may want
   to go in and evacuate in OR. The family will need to be contact[**Name (NI) **] to
   make sure this is within their goals of care for Mr.[**Known lastname 823**].
   - Continue broad spectrum antibiotics
   - f/u IR recs, liver recs
   - Hepatitis serologies negative, AFP WNL, Aoemba and Echinococcus
   serology -pend
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Improvement with fluid resuscitation.
   - IVF as above
   - follow UOP
   -monitor creatinine
   .
   # Anemia. Likely anemia of chronic disease. Worsened with dilution from
   massive fluid resuscitation.  Does not appear to be actively bleeding
   at this time.  Hct has been stable over 24 hourse.
   - Active type and screen
   - serial Hcts
 stable [**11-5**]
   .
   # NSTEMI: Thought to be likely to demand ischemia in setting of sepsis,
   with rising troponins on admission but questionable changes on EKG.
   This could also have been falsely elevated by his acute renal failure
   and poor clearance of troponins/CK. Restarted his aspirin (low dose)
   but holding his BP meds given his hypotension. Recently had 2 episodes
   of atrial tachycardia, likely MAT. Responsive to lopressor but also
   resolved on its own the second time.
   -81mg ASA daily
   -Unable to give BB, ACE in setting of hypotension
   -continue to monitor for arrhythmia
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - Hold home BP meds and statin
   - TEE today
   .
   # Hypertension. As above, holding home anti-hypertensives.
   .
   # PVD. On aspirin only.
   .
   #
 HYPERGLYCEMIA
 FSBG are improved, however he is receiving D5W
   w/bicarb which requires an insulin drip. ISS has been adjusted as well
   to cover for glucose under 150.
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: NPO for now. Will consult nutrition for recs once we know he is
   done w/procedure and able to receive tube feeds.
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: PIV. CVL.
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
   .
   # Dispo: ICU
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-07 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2109-11-6**] 11:30 AM
   BC x2.
 TRANS ESOPHAGEAL ECHO - At [**2109-11-6**] 01:11 PM
 EKG - At [**2109-11-6**] 05:16 PM
   -one episode of hypertension (200/60) and atrial tachycardia (120s),
   resolved w/turning off levophed and 2mg of lopressor, EKG done,
   suctioned thick yellow secretions
   -TEE attempted but pt w/loose teeth
   -CT A/P prelim read: 1. The left hepatic lobe drain is well positioned
   within the left lobe, with
   near complete resolution of the left hepatic abscess into which it is
   placed.
   2. Multiple small collections elsewhere within the liver are not
   amenable to
   percutaneous drainage. There are multiple small collections in the
   caudate
   lobe, which are not amenable to percutaneous drainage.
   3. Interval development of small bilateral pleural effusions, ascites,
   and
   left basilar consolidation
   -repleted K for 3.6
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2109-11-4**] 08:10 AM
   Gentamicin - [**2109-11-4**] 05:05 PM
   Ciprofloxacin - [**2109-11-5**] 04:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-7**] 12:26 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Metoprolol - [**2109-11-6**] 05:25 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-7**] 12:26 AM
   Other medications:
   ISS
   Metoprolol
   Asa
   Cipro
   Protonix
   Chlorhexidine
   Fentanyl
   Versed
   Heparin
   Neorepi
   Zosyn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-7**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 88 (70 - 116) bpm
   BP: 150/46(69) {92/33(54) - 190/59(94)} mmHg
   RR: 26 (23 - 31) insp/min
   SpO2: 100% (97-100)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 16 (16 - 16)mmHg
   Total In:
                                                                  3,545 mL
                                                                    290 mL
   PO:
   TF:
   IVF:
                                                                  3,545 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                    815 mL
                                                                    248 mL
   Urine:
                                                                    735 mL
                                                                    248 mL
   NG:
   Stool:
                                                                     50 mL
   Drains:
                                                                     30 mL
   Balance:
                                                                  2,730 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.43/32/134/20/-1
   Ve: 12.7 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: sedated but wakes to voice, not responding to
   commands
   Eyes / Conjunctiva: anisosocoria, arcus senilis
   Cardiovascular: RRR S1S2 2/6 SEM
   Respiratory / Chest: bilateral clear anteriorly
   Extremities: BL 2+ edema, warm ext
   Skin:  anasarca
   Neurologic: Intubated and sedated. Opening voice to voice. Tone: normal
   throughout; Pupils R 3mm, L 2mm, both responsive to light.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Labs / Radiology
   429 K/uL
   8.3 g/dL
   88 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   28 mg/dL
   112 mEq/L
   139 mEq/L
   24.7 %
   18.8 K/uL
        [image002.jpg]
   Cytology from abcess aspirate neg for malignancy
   Echo EF 30-35, extensive LV systolic dysfxn c/w multivessel CAD, mod MR
   [**11-5**] CXR improved PVC BL base atelectasis, LLL collapse
   Blood 12/16, [**11-6**] pending
   Blood 12/14 pans sensitive klebs
   Stool [**11-4**] neg
   Abcess no growth
   CVL tip cult: NG
                            [**2109-11-4**]  09:21 PM
                            [**2109-11-5**]  03:00 AM
                            [**2109-11-5**]  03:11 PM
                            [**2109-11-5**]  05:29 PM
                            [**2109-11-6**]  03:42 AM
                            [**2109-11-6**]  03:56 AM
                            [**2109-11-6**]  08:11 AM
                            [**2109-11-6**]  10:29 PM
                            [**2109-11-7**]  04:09 AM
                            [**2109-11-7**]  04:40 AM
   WBC
   23.5
   24.1
   18.8
   Hct
   28.9
   26.1
   26.3
   24.7
   Plt
   [**Telephone/Fax (3) 4432**]
   Cr
   2.3
   2.3
   2.4
   2.2
   TropT
   0.81
   TCO2
   19
   17
   20
   16
   17
   23
   22
   Glucose
   [**Telephone/Fax (3) 4433**]8
   Other labs: PT / PTT / INR:15.5/31.8/1.4, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:27/51, Alk Phos / T Bili:129/2.8,
   Amylase / Lipase:59/25, Differential-Neuts:93.8 %, Lymph:3.3 %,
   Mono:2.5 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL,
   LDH:240 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   84 yoM with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   : Klebsiella growing in blood, most likely same path as his liver
   abscess.  Outside hospital records yesterday reported Klebsiella
   bacteremia. No growth in abcess fluid. Last night period of htn to 190,
   tachy to 130, pressors stoped, however BP droped again after small dose
   lopressor. Required Norepi throughout night.
   - continue cipro and zosyn. S/p one dose of gentamicin for extended GNR
   coverage
   - on Levophed this am. Had been titrating to MAP of 65 but pt has a
   wide pulse pressure meaning was frequently with SBP of 120. Switched
   titrating parameters to SBP > 100 for pressor in hopes of weaning off
   today.
   - [**11-7**] rescaned abd for additional possible sites to drain. No
   abcesses to intervene on through IR. Scan shows multiple small
   abcesses,
   - f/u surgery recs, they suggest consider surgery for eval of liver and
   possible further intraop drainage.  However medical team feel pt is
   improving. Pressor requirements decreasing, afebrile, WBC downtrending,
   decreasing FiO2 on vent. Feel mortality risk with surgery at this time
   is greater.
   -f/u cultures
   -C diff negative, Ova and parasite negative
   -TEE for possible endocarditis as nidus of infection requested by ID.
   Feel likelihood of klebs endocarditis low, pt does not have
   presistantly positive blood cultures, clinically improving. Do not feel
   worth sending pt to OR for teeth pulling to do TEE.
   -bolus fluids as necessary for hypotension.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : likely secondary to  flash pulmonary edema initially, given
   underlying cardiomyopathy, tachycardia, and sepsis; however cannot
   exclude ARDS
   -          VAP ppx
   -          Decrease FIO2 from 50 to 40% this am
   .
   # Liver abscess. Post-drain placement by IR. Per surgery may have other
   areas of loculation in caudate. wentdown to IR to evaluate for any
   other areas that may be amenable to drainage, however none were found.
   As above surgery may want to go in and evacuate in OR. Goals of care
   discussed with family, not clear that he would want the surgery.
   - Continue broad spectrum antibiotics
   - Hepatitis serologies negative, AFP WNL, Aoemba and Echinococcus
   serology -pend
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Improvement with fluid resuscitation.
   - IVF as above
   - follow UOP
   -monitor creatinine, slowing downtrending
   .
   # Anemia. Likely anemia of chronic disease. Worsened with dilution from
   massive fluid resuscitation.  Does not appear to be actively bleeding
   at this time.  Hct has been stable
   - Active type and screen
   - serial Hcts
 stable
   .
   # NSTEMI: Thought to be likely to demand ischemia in setting of sepsis,
   with rising troponins on admission but questionable changes on EKG.
   This could also have been falsely elevated by his acute renal failure
   and poor clearance of troponins/CK. Restarted his aspirin (low dose)
   but holding his BP meds given his hypotension. Recently had 2 episodes
   of atrial tachycardia, likely MAT. Responsive to lopressor but also
   resolved on its own the second time.
   -81mg ASA daily
   -Unable to give BB, ACE in setting of hypotension
   -continue to monitor for arrhythmia
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - Hold home BP meds and statin
   -TEE on hold [**12-22**] loose teeth
   .
   # Hypertension. As above, holding home anti-hypertensives.
   .
   # PVD. On aspirin only.
   .
   #
 HYPERGLYCEMIA
 Off insulin gtt since done with D5 with bicarb.
   Back on ISS
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: NPO consult nutrition for TF recs, lytes prn. No IVF for now,
   grossly positive for LOS, bolus fluid as necessary
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: PIV. CVL., A line
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
   .
   # Dispo: ICU
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-08 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - No fever, WBC decreasing
   -weaned off all pressors
   -ID said may stop cipro
   -[**Doctor First Name 213**] said to reimage in a few days
   - family is not excited about presueing surgery at this time, feeling
   may change if clinical situation changes
   - BG elevated after starting TF, added low dose glargine and increased
   ss
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-11-7**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-8**] 12:59 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-11-8**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-8**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 83 (74 - 93) bpm
   BP: 122/30(53) {98/30(53) - 153/50(77)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 10 (-1 - 15)mmHg
   Total In:
                                                                  1,203 mL
                                                                    464 mL
   PO:
   TF:
                                                                     95 mL
                                                                    109 mL
   IVF:
                                                                  1,008 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                    728 mL
                                                                    180 mL
   Urine:
                                                                    728 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    475 mL
                                                                    284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 478 (478 - 490) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.42/32/119/20/-2
   Ve: 12.5 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General Appearance: sedated but wakes to voice, not responding to
   commands
   Eyes / Conjunctiva: anisosocoria, arcus senilis
   Cardiovascular: RRR S1S2 2/6 SEM
   Respiratory / Chest: bilateral clear anteriorly
   Extremities: BL 2+ edema, warm ext
   Skin:  anasarca
   Neurologic: Intubated and sedated. Opening voice to voice. Tone: normal
   throughout; Pupils R 3mm, L 2mm, both responsive to light.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   412 K/uL
   7.7 g/dL
   178 mg/dL
   2.2 mg/dL
   20 mEq/L
   3.9 mEq/L
   27 mg/dL
   111 mEq/L
   136 mEq/L
   23.3 %
   12.5 K/uL
        [image002.jpg]
                            [**2109-11-5**]  03:11 PM
                            [**2109-11-5**]  05:29 PM
                            [**2109-11-6**]  03:42 AM
                            [**2109-11-6**]  03:56 AM
                            [**2109-11-6**]  08:11 AM
                            [**2109-11-6**]  10:29 PM
                            [**2109-11-7**]  04:09 AM
                            [**2109-11-7**]  04:40 AM
                            [**2109-11-8**]  03:05 AM
                            [**2109-11-8**]  03:19 AM
   WBC
   24.1
   18.8
   12.5
   Hct
   26.1
   26.3
   24.7
   23.3
   Plt
   372
   429
   412
   Cr
   2.3
   2.4
   2.2
   2.2
   TCO2
   20
   16
   17
   23
   22
   21
   Glucose
   143
   129
   88
   178
   Other labs: PT / PTT / INR:16.0/33.5/1.4, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:18/23, Alk Phos / T Bili:132/2.5,
   Amylase / Lipase:59/25, Differential-Neuts:93.8 %, Lymph:3.3 %,
   Mono:2.5 %, Eos:0.1 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL,
   LDH:191 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   84 yoM with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
   : Klebsiella growing in blood, most likely same path as his liver
   abscess.  Outside hospital records yesterday reported Klebsiella
   bacteremia. No growth in abcess fluid. Last night period of htn to 190,
   tachy to 130, pressors stoped, however BP droped again after small dose
   lopressor. Required Norepi throughout night.
   - continue cipro and zosyn. S/p one dose of gentamicin for extended GNR
   coverage
   - on Levophed this am. Had been titrating to MAP of 65 but pt has a
   wide pulse pressure meaning was frequently with SBP of 120. Switched
   titrating parameters to SBP > 100 for pressor in hopes of weaning off
   today.
   - [**11-7**] rescaned abd for additional possible sites to drain. No
   abcesses to intervene on through IR. Scan shows multiple small
   abcesses,
   - f/u surgery recs, they suggest consider surgery for eval of liver and
   possible further intraop drainage.  However medical team feel pt is
   improving. Pressor requirements decreasing, afebrile, WBC downtrending,
   decreasing FiO2 on vent. Feel mortality risk with surgery at this time
   is greater.
   -f/u cultures
   -C diff negative, Ova and parasite negative
   -TEE for possible endocarditis as nidus of infection requested by ID.
   Feel likelihood of klebs endocarditis low, pt does not have
   presistantly positive blood cultures, clinically improving. Do not feel
   worth sending pt to OR for teeth pulling to do TEE.
   -bolus fluids as necessary for hypotension.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : likely secondary to  flash pulmonary edema initially, given
   underlying cardiomyopathy, tachycardia, and sepsis; however cannot
   exclude ARDS
   -          VAP ppx
   -          Decrease FIO2 from 50 to 40% this am
   .
   # Liver abscess. Post-drain placement by IR. Per surgery may have other
   areas of loculation in caudate. wentdown to IR to evaluate for any
   other areas that may be amenable to drainage, however none were found.
   As above surgery may want to go in and evacuate in OR. Goals of care
   discussed with family, not clear that he would want the surgery.
   - Continue broad spectrum antibiotics
   - Hepatitis serologies negative, AFP WNL, Aoemba and Echinococcus
   serology -pend
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Improvement with fluid resuscitation.
   - IVF as above
   - follow UOP
   -monitor creatinine, slowing downtrending
   .
   # Anemia. Likely anemia of chronic disease. Worsened with dilution from
   massive fluid resuscitation.  Does not appear to be actively bleeding
   at this time.  Hct has been stable
   - Active type and screen
   - serial Hcts
 stable
   .
   # NSTEMI: Thought to be likely to demand ischemia in setting of sepsis,
   with rising troponins on admission but questionable changes on EKG.
   This could also have been falsely elevated by his acute renal failure
   and poor clearance of troponins/CK. Restarted his aspirin (low dose)
   but holding his BP meds given his hypotension. Recently had 2 episodes
   of atrial tachycardia, likely MAT. Responsive to lopressor but also
   resolved on its own the second time.
   -81mg ASA daily
   -Unable to give BB, ACE in setting of hypotension
   -continue to monitor for arrhythmia
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - Hold home BP meds and statin
   -TEE on hold [**12-22**] loose teeth
   .
   # Hypertension. As above, holding home anti-hypertensives.
   .
   # PVD. On aspirin only.
   .
   #
 HYPERGLYCEMIA
 Off insulin gtt since done with D5 with bicarb.
   Back on ISS
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: NPO consult nutrition for TF recs, lytes prn. No IVF for now,
   grossly positive for LOS, bolus fluid as necessary
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: PIV. CVL., A line
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-7**] 02:30 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-09 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2109-11-8**] 02:30 PM
   - pt tachycardic/hypertensive with lasix drip running overnight, turned
   off drip, pressures normalized
   - increased peep overnight with decreasing oxygenation on abg's
   - surgery signed off - no surgical issues
   - Pansensitive Klebs in blood, ? GPRs in last fluid cx (most recent)
   - increasing FSBG overnight - will change insulin (increase Lantus)
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-11-7**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-8**] 11:59 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-11-8**] 11:59 PM
   Midazolam (Versed) - [**2109-11-9**] 04:31 AM
   Fentanyl - [**2109-11-9**] 04:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-9**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 97 (76 - 119) bpm
   BP: 123/41(61) {89/32(52) - 184/66(102)} mmHg
   RR: 27 (23 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (-2 - 19)mmHg
   Total In:
                                                                  1,752 mL
                                                                    643 mL
   PO:
   TF:
                                                                    922 mL
                                                                    284 mL
   IVF:
                                                                    590 mL
                                                                    358 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                  1,540 mL
   Urine:
                                                                  2,185 mL
                                                                  1,540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -433 mL
                                                                   -897 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 482 (452 - 482) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/37/85.[**Numeric Identifier 126**]/23/0
   Ve: 12.3 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   504 K/uL
   8.4 g/dL
   230 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.4 mEq/L
   26 mg/dL
   111 mEq/L
   140 mEq/L
   24.8 %
   11.8 K/uL
        [image002.jpg]
                            [**2109-11-7**]  04:09 AM
                            [**2109-11-7**]  04:40 AM
                            [**2109-11-8**]  03:05 AM
                            [**2109-11-8**]  03:19 AM
                            [**2109-11-8**]  03:00 PM
                            [**2109-11-8**]  11:58 PM
                            [**2109-11-9**]  01:33 AM
                            [**2109-11-9**]  01:46 AM
                            [**2109-11-9**]  02:37 AM
                            [**2109-11-9**]  04:08 AM
   WBC
   18.8
   12.5
   11.8
   Hct
   24.7
   23.3
   24.8
   Plt
   429
   412
   504
   Cr
   2.2
   2.2
   2.2
   2.2
   TCO2
   22
   21
   23
   23
   23
   24
   Glucose
   88
   178
   217
   230
   Other labs: PT / PTT / INR:13.9/30.4/1.2, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:16/21, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:59/25, Differential-Neuts:83.8 %, Lymph:10.5 %,
   Mono:2.4 %, Eos:3.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL,
   LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   84 yoM with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 Gram Negative Rod
   Bacteremia
   : Pansensitive Klebsiella growing in blood (both from [**Hospital1 19**] and OSH
   samples), most likely same path as his liver abscess.  Remainder of
   workup has been negative.  Outside hospital records yesterday reported
   Klebsiella bacteremia. No growth in abcess fluid. Last night period of
   htn to 190, tachy to 130, pressors stoped, however BP dropped again
   after small dose lopressor. Required Norepi throughout night.  Now off
   all pressors, improved WBC.
   - will d/c cipro, cont zosyn
   - d/c
d Levophed overnight. Pressures and [**Hospital1 **] stable
   - [**11-7**] rescaned abd for additional possible sites to drain. No
   abcesses to intervene on through IR. Scan shows multiple small
   abcesses,
   - f/u surgery recs, they suggest consider surgery for eval of liver and
   possible further intraop drainage.  However medical team feel pt is
   improving. Pressor requirements decreasing, afebrile, WBC downtrending,
   decreasing FiO2 on vent. Feel mortality risk with surgery at this time
   is greater.  Surgery service signed off
   -f/u cultures
 no growth from abcess to date
   -TEE for possible endocarditis as nidus of infection requested by ID.
   With improvement in clinical picture TEE is not warranted.
   -bolus fluids PRN
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : likely secondary to  flash pulmonary edema initially, given
   underlying cardiomyopathy, tachycardia, and sepsis; however cannot
   exclude ARDS
   -VAP ppx
   -Decrease FIO2 from 50 to 40% this am
   - will attempt diresis with low dose lasix drip to remove fluid and
   attempt to improve pulm edema
   .
   # Liver abscess. Post-drain placement by IR. Per surgery may have other
   areas of loculation in caudate. wentdown to IR to evaluate for any
   other areas that may be amenable to drainage, however none were found.
   As above surgery may want to go in and evacuate in OR. Goals of care
   discussed with family, not clear that he would want the surgery.
   - Continue broad spectrum antibiotics
   - Hepatitis serologies negative, AFP WNL, Aoemba and Echinococcus
   serology -pend
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Improvement with fluid resuscitation.
   - IVF as above
   - follow [**Last Name (LF) **], [**First Name3 (LF) **] hopefully increase with lasix drip
   -monitor creatinine, slowing downtrending
   .
   # Anemia. Likely anemia of chronic disease. Worsened with dilution from
   massive fluid resuscitation.  Does not appear to be actively bleeding
   at this time.  Hct has been stable
   - Active type and screen
   - cont to follow hct
   .
   # NSTEMI: Thought to be likely to demand ischemia in setting of sepsis,
   with rising troponins on admission but questionable changes on EKG.
   This could also have been falsely elevated by his acute renal failure
   and poor clearance of troponins/CK. Restarted his aspirin (low dose)
   but holding his BP meds given his hypotension. Recently had 2 episodes
   of atrial tachycardia, likely MAT. Responsive to lopressor but also
   resolved on its own the second time.
   -81mg ASA daily
   -Unable to give BB, ACE in setting of hypotension
   -continue to monitor for arrhythmia
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - Hold home BP meds and statin
   -TEE on hold [**12-22**] loose teeth
   .
   # Hypertension. As above, holding home anti-hypertensives.
   .
   # PVD. On aspirin only.
   .
   #
 HYPERGLYCEMIA
 Off insulin gtt since done with D5 with bicarb.
   Back on ISS
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: Consult nutrition for TF recs, lytes prn. No IVF for now,
   grossly positive for LOS, bolus fluid as necessary
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: PIV. CVL., A line
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-9**] 03:37 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-09 11:14:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: septic shock, respiratory failure, liver abscess
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2109-11-8**] 02:30 PM
   PEEP increased
   Patient unable to provide history: Sedated
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-11-7**] 04:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-9**] 06:44 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2109-11-9**] 04:31 AM
   Fentanyl - [**2109-11-9**] 04:31 AM
   Heparin Sodium (Prophylaxis) - [**2109-11-9**] 08:06 AM
   Other medications:
   Zosyn, SQH, CHG, PPI, ASA, Lasix (now off), SQI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-9**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98.1
   HR: 86 (80 - 119) bpm
   BP: 122/44(66) {89/34(52) - 184/66(102)} mmHg
   RR: 26 (23 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 8 (7 - 19)mmHg
   Total In:
                                                                  1,752 mL
                                                                  1,126 mL
   PO:
   TF:
                                                                    922 mL
                                                                    549 mL
   IVF:
                                                                    590 mL
                                                                    537 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                  2,005 mL
   Urine:
                                                                  2,185 mL
                                                                  2,005 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -433 mL
                                                                   -879 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 482 (452 - 482) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/37/85.[**Numeric Identifier 126**]/23/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: coarse breath sounds
   Abdominal: Soft
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   8.4 g/dL
   504 K/uL
   230 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.4 mEq/L
   26 mg/dL
   111 mEq/L
   140 mEq/L
   24.8 %
   11.8 K/uL
        [image002.jpg]
                            [**2109-11-7**]  04:09 AM
                            [**2109-11-7**]  04:40 AM
                            [**2109-11-8**]  03:05 AM
                            [**2109-11-8**]  03:19 AM
                            [**2109-11-8**]  03:00 PM
                            [**2109-11-8**]  11:58 PM
                            [**2109-11-9**]  01:33 AM
                            [**2109-11-9**]  01:46 AM
                            [**2109-11-9**]  02:37 AM
                            [**2109-11-9**]  04:08 AM
   WBC
   18.8
   12.5
   11.8
   Hct
   24.7
   23.3
   24.8
   Plt
   429
   412
   504
   Cr
   2.2
   2.2
   2.2
   2.2
   TCO2
   22
   21
   23
   23
   23
   24
   Glucose
   88
   178
   217
   230
   Other labs: PT / PTT / INR:13.9/30.4/1.2, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:16/21, Alk Phos / T Bili:152/1.9,
   Amylase / Lipase:59/25, Differential-Neuts:83.8 %, Lymph:10.5 %,
   Mono:2.4 %, Eos:3.2 %, Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL,
   LDH:191 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.1 mg/dL
   Microbiology: Klebs in blood
   GPR in fluid
   CXR: increased edema.  Probable RUL opacity that is new.
   Assessment and Plan
   84 y/o man with
          Liver abscess
   o         Likely Klebs but GPRs concerning
          Klebsiella bacteremia
   o         Likely from liver abscess
          Probable VAP
   o         Check ET aspirate, miniBAL
   o         Add vanco, cipro
          Congestive heart failure, systolic, acute and chronic
   o         Hold diuresis for now but consider resuming this afternoon.
   Goal -[**Telephone/Fax (1) 179**].
          Renal failure
   o         Appears stable
          Respiratory failure
   o         Likely secondary to sepsis, PNA, and CHF
   o         Treat VAP and diurese as tolerated
   o         Wean PEEP if tolerated today.
   Lighten sedation as tolerated today.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-9**] 03:37 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2109-11-10 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2109-11-9**] 12:21 PM
 SPUTUM CULTURE - At [**2109-11-9**] 01:05 PM
   -started vanco, cipro for VAP
   -restarted insulin drip
   -per ID GPR growing in fluid cx likely contaminant
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-9**] 11:54 AM
   Ciprofloxacin - [**2109-11-9**] 01:06 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-10**] 06:18 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 2.5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-9**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-10**] 12:25 AM
   Other medications:
   Insulin gtt
   cipro
   vanco
   albuterol
   miconazole
   nystatin
   asa
   protonix
   chlorhexidine
   fentanyl
   versed
   heparin
   zosyn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-10**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 101 (79 - 113) bpm
   BP: 153/44(74) {93/34(51) - 180/54(88)} mmHg
   RR: 26 (17 - 27) insp/min
   SpO2: 100% (95-100)
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
   BG 78 to 286
    CVP: 11 (7 - 14)mmHg
             Total In:
                                                                  2,595 mL
                                                                    743 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    319 mL
   IVF:
                                                                  1,353 mL
                                                                    425 mL
   Blood products:
   Total out:
                                                                  4,635 mL
                                                                    680 mL
   Urine:
                                                                  4,635 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,040 mL
                                                                     63 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/40/119/26/4
   Ve: 12.3 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Gen: sedated, intubated, moving ext to stimuli
   HEENT: MMM anicteric, sceral edema BL. R > L pupil, responsive BL
   CV: RRR S1S2 2/6 SEM
   PULM: clear BL anteriorly
   ABD: increasingly distended, tympanitic, no grimace w/palpation, + bs
   Ext: warm ext
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   487 K/uL
   7.3 g/dL
   129 mg/dL
   2.2 mg/dL
   26 mEq/L
   4.3 mEq/L
   23 mg/dL
   110 mEq/L
   142 mEq/L
   21.9 %
   13.8 K/uL
        [image002.jpg]
   Blood 12/14 pan sensi klebs
   abcess [**11-5**] rare GNR
   BAL GS polys, cult pending
   [**11-9**] sputum GS no organisms since
   CXR: [**11-9**] new R lung opacification
   [**11-10**] CXR: fissure less prominent RUL, worsening effusioins / BL lower
   lung opacifications.
                            [**2109-11-8**]  11:58 PM
                            [**2109-11-9**]  01:33 AM
                            [**2109-11-9**]  01:46 AM
                            [**2109-11-9**]  02:37 AM
                            [**2109-11-9**]  04:08 AM
                            [**2109-11-9**]  03:55 PM
                            [**2109-11-9**]  04:04 PM
                            [**2109-11-9**]  09:58 PM
                            [**2109-11-10**]  03:34 AM
                            [**2109-11-10**]  04:00 AM
   WBC
   11.8
   13.8
   Hct
   24.8
   21.9
   Plt
   504
   487
   Cr
   2.2
   2.2
   2.3
   2.2
   TCO2
   23
   23
   23
   24
   23
   29
   Glucose
   230
   292
   129
   Other labs: PT / PTT / INR:13.6/34.7/1.2, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:14/17, Alk Phos / T Bili:118/1.5,
   Amylase / Lipase:59/25, Differential-Neuts:83.8 %, Lymph:10.5 %,
   Mono:2.4 %, Eos:3.2 %, Lactic Acid:1.4 mmol/L, Albumin:1.9 g/dL,
   LDH:171 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   84 yoM with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 Gram Negative Rod
   Bacteremia
   : Pansensitive Klebsiella growing in blood (both from [**Hospital1 19**] and OSH
   samples), most likely same path as his liver abscess.  Remainder of
   workup has been negative.  Outside hospital records yesterday reported
   Klebsiella bacteremia. No growth in abcess fluid initially now one
   sample with GNR. ID thinks this may be a contaminant and [**Male First Name (un) **]
t think we
   need to alter abx coverage at this point. Had another episode of
   hypertension, tachycardia last night at which point lasix drip was
   discontinued. However continued to have good UOP. Off pressors at this
   point. However WBC uptrending, continued fever which is concerning for
   VAP (given increased vent requirements overnight).  CXR with RUL and
   now possible lower lobe infiltrates
   - restart cipro, zosyn, add vanco for ? VAP
   - off Pressures and UOP stable
   -f/u cultures and speciation
   -f/u ID recs
   -sputum, BAL negative so far
   - monitor abd distention
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : likely secondary to  flash pulmonary edema initially, given
   underlying cardiomyopathy, tachycardia, and sepsis; Now with possible
   VAP given CXR and increasing vent requirements.
   -BAL, sputum cx NG so far
   -cipro, vanco, zosyn
   -ID recs
   -attempt to wean off vent as tolerated. This am decreased RR 26 to 20
   with goal of pt overbreathing vent.. Goal pH 7.38. Repeat ABG this
   afternoon. Recheck RSBI if spontaneous breathing
   -decrease sedation as much as possible
   .
   # Tachycardia: appears sinus vs atrial tach on monitor. Responds
   slightly to carotid massage suggesting sinus.  Has had multiple
   episodes of HTN and tachy.
   -Concerning with HCT drop. H/H repeat pending
   -guiaic stools
   - if hct drop CT abd and transfuse
   -if HCT stable start B blocker and lasix to treat CHF
   .
   # Liver abscess. Post-drain placement by IR. Per surgery may have other
   areas of loculation in caudate. wentdown to IR to evaluate for any
   other areas that may be amenable to drainage, however none were found.
   As above surgery may want to go in and evacuate in OR. Goals of care
   discussed with family, not clear that he would want the surgery.
   - Continue broad spectrum antibiotics
   - Hepatitis serologies negative, AFP WNL, Aoemba and Echinococcus
   serology -pend
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Improvement with fluid resuscitation.
   - IVF as above
   - follow UOP, now off lasix gtt [**12-22**] tachycardia.
   -monitor creatinine, slowing downtrending
   .
   # Anemia. Likely anemia of chronic disease. Worsened with dilution from
   massive fluid resuscitation.  Does not appear to be actively bleeding
   at this time.  Hct has been stable
   - Active type and screen
   - cont to follow hct
   .
   # NSTEMI: Thought to be likely to demand ischemia in setting of sepsis,
   with rising troponins on admission but questionable changes on EKG.
   This could also have been falsely elevated by his acute renal failure
   and poor clearance of troponins/CK. Restarted his aspirin (low dose)
   but holding his BP meds given his hypotension. Recently had 2 episodes
   of atrial tachycardia, ? MAT. Responsive to lopressor prn.
   -81mg ASA daily
   -Unable to give BB, ACE in setting of labile BPs
   -continue to monitor for arrhythmia
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - plan as above to restart B blocker and lasix if possible
   .
   # Hypertension. As above, holding home anti-hypertensives.
   .
   # PVD. On aspirin only.
   .
   #
 HYPERGLYCEMIA
 continue insulin gtt
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: TF, lytes prn.
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: PIV. CVL., A line
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-10**] 03:31 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-11 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2109-11-10**] 09:00 AM
 EKG - At [**2109-11-10**] 11:54 AM, new TWI on V4-V6?
   -started lasix gtt given stable HCT and stable BP. consider adding B
   blocker this am
   -tele examed, periods of tachycardia appear sinus
   - good RSBI this am, but P02 only 60 on ABG, increased peep
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-9**] 11:54 AM
   Ciprofloxacin - [**2109-11-10**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-11**] 12:25 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 2 units/hour
   Fentanyl - 75 mcg/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2109-11-10**] 06:48 PM
   Midazolam (Versed) - [**2109-11-10**] 06:49 PM
   Pantoprazole (Protonix) - [**2109-11-10**] 08:58 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-11**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-11**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.6
C (97.8
   HR: 99 (91 - 106) bpm
   BP: 152/46(72) {104/29(52) - 175/58(86)} mmHg
   RR: 21 (21 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (8 - 17)mmHg
   Total In:
                                                                  2,369 mL
                                                                    481 mL
   PO:
   TF:
                                                                  1,203 mL
                                                                    302 mL
   IVF:
                                                                  1,136 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  2,355 mL
                                                                  1,620 mL
   Urine:
                                                                  2,355 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                 -1,139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 458 (458 - 458) mL
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.45/39/60/29/2
   Ve: 10.5 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Gen: sedated, intubated, moving ext to stimuli
   HEENT: MMM anicteric, sceral edema BL. R > L pupil, responsive BL
   CV: RRR S1S2 2/6 SEM
   PULM: clear BL anteriorly
   ABD: increasingly distended, tympanitic, no grimace w/palpation, + bs
   Ext: warm ext
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   512 K/uL
   7.3 g/dL
   134 mg/dL
   2.1 mg/dL
   29 mEq/L
   4.2 mEq/L
   24 mg/dL
   106 mEq/L
   139 mEq/L
   22.2 %
   13.7 K/uL
        [image002.jpg]
                            [**2109-11-9**]  04:04 PM
                            [**2109-11-9**]  09:58 PM
                            [**2109-11-10**]  03:34 AM
                            [**2109-11-10**]  04:00 AM
                            [**2109-11-10**]  10:55 AM
                            [**2109-11-10**]  11:01 AM
                            [**2109-11-10**]  11:36 PM
                            [**2109-11-10**]  11:53 PM
                            [**2109-11-11**]  03:54 AM
                            [**2109-11-11**]  04:15 AM
   WBC
   13.8
   13.9
   13.7
   Hct
   21.9
   22.5
   21.7
   22.2
   Plt
   487
   518
   512
   Cr
   2.3
   2.2
   2.1
   TCO2
   23
   29
   28
   31
   28
   Glucose
   129
   134
   Other labs: PT / PTT / INR:12.8/34.2/1.1, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:[**11-8**], Alk Phos / T Bili:109/1.5,
   Amylase / Lipase:59/25, Differential-Neuts:83.8 %, Lymph:10.5 %,
   Mono:2.4 %, Eos:3.2 %, Fibrinogen:648 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:1.9 g/dL, LDH:175 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   84 yoM with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 Gram Negative Rod
   Bacteremia
   : Pansensitive Klebsiella growing in blood (both from [**Hospital1 19**] and OSH
   samples), most likely same path as his liver abscess.  Remainder of
   workup has been negative.  Outside hospital records yesterday reported
   Klebsiella bacteremia. No growth in abcess fluid initially now one
   sample with GNR. ID thinks this may be a contaminant and [**Male First Name (un) **]
t think we
   need to alter abx coverage at this point. Had another episode of
   hypertension, tachycardia last night at which point lasix drip was
   discontinued. However continued to have good UOP. Off pressors at this
   point. However WBC uptrending, continued fever which is concerning for
   VAP (given increased vent requirements overnight).  CXR with RUL and
   now possible lower lobe infiltrates
   - restart cipro, zosyn, add vanco for ? VAP
   - off Pressures and UOP stable
   -f/u cultures and speciation
   -f/u ID recs
   -sputum, BAL negative so far
   - monitor abd distention
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : likely secondary to  flash pulmonary edema initially, given
   underlying cardiomyopathy, tachycardia, and sepsis; Now with possible
   VAP given CXR and increasing vent requirements.
   -BAL, sputum cx NG so far
   -cipro, vanco, zosyn
   -ID recs
   -attempt to wean off vent as tolerated. This am decreased RR 26 to 20
   with goal of pt overbreathing vent.. Goal pH 7.38. Repeat ABG this
   afternoon. Recheck RSBI if spontaneous breathing
   -decrease sedation as much as possible
   .
   # Tachycardia: appears sinus vs atrial tach on monitor. Responds
   slightly to carotid massage suggesting sinus.  Has had multiple
   episodes of HTN and tachy.
   -Concerning with HCT drop. H/H repeat pending
   -guiaic stools
   - if hct drop CT abd and transfuse
   -if HCT stable start B blocker and lasix to treat CHF
   .
   # Liver abscess. Post-drain placement by IR. Per surgery may have other
   areas of loculation in caudate. wentdown to IR to evaluate for any
   other areas that may be amenable to drainage, however none were found.
   As above surgery may want to go in and evacuate in OR. Goals of care
   discussed with family, not clear that he would want the surgery.
   - Continue broad spectrum antibiotics
   - Hepatitis serologies negative, AFP WNL, Aoemba and Echinococcus
   serology -pend
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Improvement with fluid resuscitation.
   - IVF as above
   - follow UOP, now off lasix gtt [**12-22**] tachycardia.
   -monitor creatinine, slowing downtrending
   .
   # Anemia. Likely anemia of chronic disease. Worsened with dilution from
   massive fluid resuscitation.  Does not appear to be actively bleeding
   at this time.  Hct has been stable
   - Active type and screen
   - cont to follow hct
   .
   # NSTEMI: Thought to be likely to demand ischemia in setting of sepsis,
   with rising troponins on admission but questionable changes on EKG.
   This could also have been falsely elevated by his acute renal failure
   and poor clearance of troponins/CK. Restarted his aspirin (low dose)
   but holding his BP meds given his hypotension. Recently had 2 episodes
   of atrial tachycardia, ? MAT. Responsive to lopressor prn.
   -81mg ASA daily
   -Unable to give BB, ACE in setting of labile BPs
   -continue to monitor for arrhythmia
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - plan as above to restart B blocker and lasix if possible
   .
   # Hypertension. As above, holding home anti-hypertensives.
   .
   # PVD. On aspirin only.
   .
   #
 HYPERGLYCEMIA
 continue insulin gtt
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: TF, lytes prn.
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: PIV. CVL., A line
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-11**] 12:28 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-12 05:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaned to 5/0, attempted to extubate failed, now on Assist Control
   450/22/5
   - auto-diuresing, down 2L overnight
   - trial to wean tomorrow AM
   - still 11L positive
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-11-10**] 01:00 PM
   Vancomycin - [**2109-11-11**] 12:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-12**] 12:41 AM
   Infusions:
   Insulin - Regular - 3 units/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-12**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-12**] 05:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 103 (92 - 122) bpm
   BP: 149/47(80) {102/39(57) - 174/61(97)} mmHg
   RR: 23 (10 - 39) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.6 kg (admission): 66 kg
   Height: 62 Inch
    CVP: 96 (4 - 96)mmHg
   Total In:
                                                                  2,593 mL
                                                                    405 mL
   PO:
   TF:
                                                                  1,369 mL
                                                                    282 mL
   IVF:
                                                                    924 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  4,660 mL
                                                                    390 mL
   Urine:
                                                                  3,850 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
                                                                     10 mL
   Balance:
                                                                 -2,067 mL
                                                                     15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 406 (364 - 458) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 99
   PIP: 6 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 95%
   ABG: 7.47/42/72/30/6
   Ve: 8 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Gen: sedated, intubated, opened eyes to voice but not responding to
   command
   HEENT: MMM anicteric, sceral edema BL. R > L pupil, responsive BL
   CV: RRR S1S2 2/6 SEM
   PULM: clear BL anteriorly
   ABD: distended, tympanitic, no grimace w/palpation, + bs, dressing
   c/d/i
   Ext: warm ext
   Labs / Radiology
   534 K/uL
   6.8 g/dL
   97 mg/dL
   2.1 mg/dL
   30 mEq/L
   4.4 mEq/L
   25 mg/dL
   104 mEq/L
   140 mEq/L
   20.5 %
   13.7 K/uL
        [image002.jpg]
                            [**2109-11-10**]  04:00 AM
                            [**2109-11-10**]  10:55 AM
                            [**2109-11-10**]  11:01 AM
                            [**2109-11-10**]  11:36 PM
                            [**2109-11-10**]  11:53 PM
                            [**2109-11-11**]  03:54 AM
                            [**2109-11-11**]  04:15 AM
                            [**2109-11-11**]  01:08 PM
                            [**2109-11-12**]  03:53 AM
                            [**2109-11-12**]  04:15 AM
   WBC
   13.9
   13.7
   13.7
   Hct
   22.5
   21.7
   22.2
   20.5
   Plt
   [**Telephone/Fax (3) 4528**]
   Cr
   2.1
   2.1
   TCO2
   29
   28
   31
   28
   33
   31
   Glucose
   134
   97
   Other labs: PT / PTT / INR:12.8/34.2/1.1, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:[**11-8**], Alk Phos / T Bili:109/1.5,
   Amylase / Lipase:59/25, Differential-Neuts:83.8 %, Lymph:10.5 %,
   Mono:2.4 %, Eos:3.2 %, Fibrinogen:648 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:1.9 g/dL, LDH:175 IU/L, Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:3.2
   mg/dL
   Fibrinogen 648   haptoglobin  210  LDH 175  retic count pending
   Assessment and Plan
   84 yo M with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 Klebsiella Bacteremia,
   Liver abscess
   : Pansensitive Klebsiella growing in blood (both from [**Hospital1 19**] and OSH
   samples). Remainder of workup has been negative. Off pressors at this
   point with good UOP, autodiuresis overnight. WBC has been holding
   steady at 13 with intermittent low-grade fevers, but overall has been
   improving.
   - zosyn, touch base w/ID to establish timeline for abx
   -no drainage per catheter
   - monitor abd distention
   -monitor UOP, if drops below 100 give lasix IV bolus
   -hemodynamically stable
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : Initially flash pulmonary now with VAP given CXR and increasing vent
   requirements. Added vancomycin/cipro  to antibiotic regimen. Cultures
   have been negative so far. CXR appears slightly improved from
   yesterday, but appears to have underlying pulmonary edema. Was unable
   to extubate yesterday as did not tolerate PS 5/0 for very long. Was
   rested on AC overnight. We will continue to wean off the vent and
   extubate today if he does better.
   -on PS 10/5, continue to wean
   -BAL, sputum cx NG so far
   -cipro, vanco for PNA
   -ID recs
   -lasix bolus for pulmonary edema
   .
   # Tachycardia: appears to be sinus tachycardia, as responds slightly to
   carotid massage.  Has had multiple episodes of HTN accompanying the
   tachycardia which improves with lopressor as well as increase in
   sedation. Has done well with coreg thus far, and may have room to
   increase today. Given his anemia, we will hold off on increasing
   bblocker until he has settled out after transfusion.
   -coreg [**Hospital1 **], consider increase in dose
   -lasix IV prn if BP is stable
   -EKG if concern for arrhythmia
   -start ACEi if BP>160s persistently
   .
   # Liver abscess. Post-drain placement by IR. Currently continuing broad
   spectrum antibiotics for Klebsiella, anaerobes and usual GI infectious
   sources, although no other species have grown on culture.  Drain has
   not had any significant output in the last 24hrs.
   - Continue broad spectrum antibiotics
   - Echinococcus negative, amoeba pending
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Slow and steady improvement with fluid resuscitation. Will
   continue to monitor Cr and treat fluid overload w/lasix as tolerated.
   At this point he may start to auto-diurese as we come down on his vent
   settings.
   - IVF as above
   - follow UOP, lasix boluses for UOP<100cc
   -monitor creatinine
   -renally dose meds
   .
   # Anemia. Likely anemia of chronic disease. However given his steady
   decline (today 20) will transfuse 2U, with bolus lasix IV to avoid
   fluid overload and worsening pulmonary edema. Of note he continues to
   be very fluid overloaded so some of his anemia may be secondary to
   dilution from massive fluid resuscitation.  Does not appear to be
   actively bleeding at this time, hemolysis labs are negative and retic
   count is pending.
   - Active type and screen
   - 2U PRBC
   -20mg IV lasix prn
   .
   # NSTEMI: Thought to be likely to demand ischemia in setting of sepsis,
   with rising troponins on admission but questionable changes on EKG.
   This could also have been falsely elevated by his acute renal failure
   and poor clearance of troponins/CK. Recent  EKG changes in the setting
   of tachycardia, which have resolved and may be due to demand ischemia.
   On aspirin, low dose coreg.
   -81mg ASA daily
   -coreg [**Hospital1 **]
   -monitor on tele, EKG if concern
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - coreg as above
   .
   # PVD. On aspirin only.
   .
   # HYPERGLYCEMIA
 improved glucose control with insulin drip, will
   switch to ISS and adjust for tight control.
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: TF, place NG in case he is extubated, lytes prn.
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: CVL., A line. PICC to be placed today.
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
   .
   # Dispo: ICU plan on extubation
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-12**] 12:31 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-13 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -off insulin drip, back on ISS. wrote for 10U glargine qhs
   -2U PRBC w/lasix IV
   -did not tolerate PS too long; back on AC
   -retic count shows appropr response to anemia
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-11**] 12:36 PM
   Ciprofloxacin - [**2109-11-12**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-13**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2109-11-12**] 05:38 PM
   Pantoprazole (Protonix) - [**2109-11-12**] 08:00 PM
   Fentanyl - [**2109-11-12**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-13**] 12:00 AM
   Furosemide (Lasix) - [**2109-11-13**] 02:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-13**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98.1
   HR: 87 (81 - 106) bpm
   BP: 125/39(67) {116/35(59) - 140/51(81)} mmHg
   RR: 22 (14 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.6 kg (admission): 66 kg
   Height: 62 Inch
    CVP: 11 (11 - 101)mmHg
   Total In:
                                                                  3,212 mL
                                                                    438 mL
   PO:
   TF:
                                                                  1,342 mL
                                                                    326 mL
   IVF:
                                                                    670 mL
                                                                    112 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  3,515 mL
                                                                  1,420 mL
   Urine:
                                                                  3,515 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -303 mL
                                                                   -982 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 345 (345 - 369) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/43/63/31/4
   Ve: 10.7 L/min
   PaO2 / FiO2: 126
   Physical Examination
   Gen: sedated, intubated, opened eyes to voice but not responding to
   command
   HEENT: MMM anicteric, sceral edema BL. Pupils irregular, ? both
   surgical , R > L pupil, responsive BL
   CV: RRR S1S2 2/6 SEM
   PULM: moderate upper airway rhonchi BL anteriorly
   ABD: distended, mostly dull , area periumbilical tympanitic, no grimace
   w/palpation, + bs, dressing c/d/I on hepatic drain. Scant fluid in bag.
   Tan, clear. No output at all per nursing.
   Ext: warm ext , DP 2+
   NEUR: toes downgoing bil. No response to request for movement. No
   reflexes elicited.
   Labs / Radiology
   420 K/uL
   9.3 g/dL
   182 mg/dL
   2.1 mg/dL
   31 mEq/L
   3.7 mEq/L
   27 mg/dL
   101 mEq/L
   138 mEq/L
   25.8 %
   11.4 K/uL
        [image002.jpg]
                            [**2109-11-10**]  11:53 PM
                            [**2109-11-11**]  03:54 AM
                            [**2109-11-11**]  04:15 AM
                            [**2109-11-11**]  01:08 PM
                            [**2109-11-12**]  03:53 AM
                            [**2109-11-12**]  04:15 AM
                            [**2109-11-12**]  03:55 PM
                            [**2109-11-12**]  10:22 PM
                            [**2109-11-13**]  04:05 AM
                            [**2109-11-13**]  04:23 AM
   WBC
   13.7
   13.7
   12.2
   11.4
   Hct
   22.2
   20.5
   28.0
   25.8
   Plt
   [**Telephone/Fax (3) 4556**]20
   Cr
   2.1
   2.1
   2.0
   2.1
   2.1
   TCO2
   31
   28
   33
   31
   31
   Glucose
   134
   97
   [**Telephone/Fax (3) 4557**]
   Other labs: PT / PTT / INR:12.8/34.2/1.1, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:[**11-8**], Alk Phos / T Bili:109/1.5,
   Amylase / Lipase:59/25, Differential-Neuts:83.8 %, Lymph:10.5 %,
   Mono:2.4 %, Eos:3.2 %, Fibrinogen:648 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:1.9 g/dL, LDH:175 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   CXR: [**2109-11-11**]: pulmonary edema and bil. Pulmonary effusions.
   CXR [**2109-11-13**]:  (intern read) improved pulmonary effusions at bases,
   worsening opacity on RML, RLL, ? diffuse increased makrings  ?
   worsening edema
   Assessment and Plan
   84 yo M with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 Klebsiella Bacteremia,
   Liver abscess
   : Pansensitive Klebsiella growing in blood (both from [**Hospital1 19**] and OSH
   samples). Remainder of workup has been negative. Off pressors at this
   point with good UOP, autodiuresis overnight. WBC has been trending down
   last 3 days 13-12-11, with intermittent low-grade fevers, but afebrile
   now.
   - continue Zosyn for now
   - d/c Vanc/Cipro as should be well covered w/ Zosyn and no culture data
   or clear source.
   - ID following, appreciate recs.
   - no drainage per hepatic catheter
   - monitor abd distention
   -monitor UOP, if drops below 100 give lasix IV bolus
   -hemodynamically stable with UOP approx 12-15cc /hr
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : Initially flash pulmonary now with VAP given CXR and increasing vent
   requirements. Added vancomycin/cipro  to antibiotic regimen. Cultures
   have been negative so far. CXR appears worse from yesterday. Was unable
   to extubate yesterday as did not tolerate PS 5/0 for very long. Was
   rested on AC overnight. We will continue to wean off the vent and
   extubate today if he does better. ABG this am on .40 FiO2 shows O2 of
   63, FiO2 now at 50%.  Sputum and Mini BAL cx NG-final. Neg GM stain.
   Xray this am shows some worsening compared to yesterday.
   -Repeat ABG this am
   - on CMV, continue to wean as tolerated
   - consider repeat BAL if spikes
   - Stopped Vanc/Cipro (as above), will continue Zosyn, which should
   cover both the Klebsiella as well as many lung pathogen
   - Consider checking NIFF
   - Lasix 40mg IV x1 and Lasix drip to continue diuresis to improve
   respiratory status given worsening xray
   .
   # Tachycardia: HR has been well controlled for past day. Previous
   appeared to be sinus tachycardia, as responded slightly to carotid
   massage.  Has had multiple episodes of HTN accompanying the tachycardia
   which improves with lopressor as well as increase in sedation. Has done
   well with coreg thus far, and may have room to increase today. Given
   his anemia, we will hold off on increasing B-blocker until he has
   settled out after transfusion and BPs stabilize.
   -coreg [**Hospital1 **], consider increase in dose
   -lasix IV bolus and drip today if BP is stable
   .
   # Liver abscess. Post-drain placement by IR. Currently continuing broad
   spectrum antibiotics for Klebsiella, anaerobes and usual GI infectious
   sources, although no other species have grown on culture.  Drain has
   not had any significant output in the last 48hrs.
   - Continue broad spectrum antibiotics
   - Echinococcus negative, amoeba pending
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Had some  improvement with fluid resuscitation. Will
   continue to monitor Cr and treat fluid overload w/ lasix as tolerated.
   Cr stable at 2.1 for past 3 days
   - IVF as above
   - follow UOP, lasix boluse and drip today
   -monitor creatinine
   -renally dose meds
   .
   # Anemia. Likely anemia of chronic disease. However given his steady
   decline (today 20) will transfuse 2U, with bolus lasix IV to avoid
   fluid overload and worsening pulmonary edema. Of note he continues to
   be very fluid overloaded so some of his anemia may be secondary to
   dilution from massive fluid resuscitation.  Does not appear to be
   actively bleeding at this time, hemolysis labs are negative and retic
   count is 5.5%.  Transfused 2 units PRBCs yesterday with HCT increase
   from 20.5 to 28.0, 25.8 this am.
   - PM HCT to trend
   - Active type and screen good until : [**2109-11-15**]
   -20mg IV lasix prn
   .
   # NSTEMI: Thought to be likely to demand ischemia in setting of sepsis,
   with rising troponins on admission but questionable changes on EKG.
   This could also have been falsely elevated by his acute renal failure
   and poor clearance of troponins/CK. Recent  EKG changes in the setting
   of tachycardia, which have resolved and may be due to demand ischemia.
   On aspirin, low dose coreg.  Tropins appeared to have stabilized or
   started to decrease at 0.81 from 0.84, have not been trended further.
   -81mg ASA daily
   -coreg [**Hospital1 **]
   -monitor on tele, EKG if concern
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - coreg as above
   .
   # PVD. On aspirin only.
   .
   # HYPERGLYCEMIA
 Received Lantus 10 last night, with sugars this am
   150-160 this am.
   -Start ISS and adjust for tight control.
   - Increase Lantus to 20 qhs.
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: TF, place NG in case he is extubated, lytes prn.
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: L-IJ- mild erythema at site.  A line.
   - Pt will need to have IJ removed soon. PICC attempted at bed by
   PICC/IV team, unable to pass
   - PICC line to be placed by IR today
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
   .
   # Dispo: ICU plan on extubation
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-12**] 09:41 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   Multi Lumen - [**2109-11-4**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-14 04:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2109-11-13**] 09:57 AM
 PICC LINE - START [**2109-11-13**] 04:00 PM
 MULTI LUMEN - STOP [**2109-11-13**] 04:33 PM
   PICC placed. Left IJ D/C'd and tip cx'd
   Had some blood with suctioning from ETT
   Changed over to PSV and initially doing well
   Sedation decreased so could visit with family then very hypertensive,
   SBP190s, given hydral 10 IV x 2, sedation increased, still
   hypertensive, tachypneic, tachycardic agitated so changed back over to
   AC
   Earlier in day hypotensive and did not receive lasix drip since
   incompatible with other meds, put out well to 20 IV (200-300 per hour)
   ID recs: Continue vanc/cipro/zosyn; should have repeat imaging soon and
   pull drain soon
   Given Lasix 20 IV x 1: negative 1.8 L
   Consider lasix dose in am
   Lantus increased
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2109-11-11**] 12:36 PM
   Ciprofloxacin - [**2109-11-12**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-14**] 12:00 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-13**] 07:53 PM
   Hydralazine - [**2109-11-13**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-13**] 10:30 PM
   Midazolam (Versed) - [**2109-11-13**] 11:15 PM
   Fentanyl - [**2109-11-14**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-14**] 04:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.8
   HR: 101 (71 - 112) bpm
   BP: 159/53(88) {93/27(47) - 181/69(108)} mmHg
   RR: 16 (16 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.6 kg (admission): 66 kg
   Height: 62 Inch
    CVP: 9 (7 - 12)mmHg
   Total In:
                                                                  2,050 mL
                                                                    510 mL
   PO:
   TF:
                                                                  1,100 mL
                                                                    246 mL
   IVF:
                                                                    560 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  3,815 mL
                                                                    505 mL
   Urine:
                                                                  3,215 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,765 mL
                                                                      5 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 327 (327 - 457) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: RR >35
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.47/42/71/29/6
   Ve: 12 L/min
   PaO2 / FiO2: 118
   Physical Examination
   Gen: sedated, intubated, opened eyes to voice but not responding to
   command
   HEENT: MMM anicteric, sceral edema BL. Pupils irregular, ? both
   surgical , R > L pupil, responsive BL
   CV: RRR S1S2 2/6 SEM
   PULM: moderate upper airway rhonchi BL anteriorly
   ABD: distended, mostly dull , area periumbilical tympanitic, no grimace
   w/palpation, + bs, dressing c/d/I on hepatic drain. Scant fluid in bag.
   Tan, clear. No output at all per nursing.
   Ext: warm ext , DP 2+
   NEUR: toes downgoing bil. No response to request for movement. No
   reflexes elicited.
   Labs / Radiology
   543 K/uL
   10.0 g/dL
   168 mg/dL
   1.9 mg/dL
   29 mEq/L
   4.2 mEq/L
   26 mg/dL
   99 mEq/L
   135 mEq/L
   29.6 %
   11.7 K/uL
        [image002.jpg]
                            [**2109-11-12**]  03:53 AM
                            [**2109-11-12**]  04:15 AM
                            [**2109-11-12**]  03:55 PM
                            [**2109-11-12**]  10:22 PM
                            [**2109-11-13**]  04:05 AM
                            [**2109-11-13**]  04:23 AM
                            [**2109-11-13**]  12:05 PM
                            [**2109-11-13**]  04:44 PM
                            [**2109-11-14**]  12:30 AM
                            [**2109-11-14**]  03:45 AM
   WBC
   13.7
   12.2
   11.4
   11.7
   Hct
   20.5
   28.0
   25.8
   29.6
   Plt
   534
   466
   420
   543
   Cr
   2.1
   2.0
   2.1
   2.1
   2.0
   1.9
   TCO2
   31
   31
   34
   32
   31
   Glucose
   97
   [**Telephone/Fax (3) 4595**]17
   168
   Other labs: PT / PTT / INR:12.8/34.2/1.1, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:14/25, Alk Phos / T Bili:107/1.5,
   Amylase / Lipase:59/25, Differential-Neuts:83.8 %, Lymph:10.5 %,
   Mono:2.4 %, Eos:3.2 %, Fibrinogen:648 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.3 g/dL, LDH:282 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   84 yo M with a history of CAD, ischemic cardiomyopathy, PVD and [**Hospital 2092**]
   transferred to unit with septic shock.
   .
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 Klebsiella Bacteremia,
   Liver abscess
   : Pansensitive Klebsiella growing in blood (both from [**Hospital1 19**] and OSH
   samples). Remainder of workup has been negative. Off pressors at this
   point with good UOP, autodiuresis overnight. WBC has been trending down
   last 3 days 13-12-11, with intermittent low-grade fevers, but afebrile
   now.
   - continue Zosyn for now
   - d/c Vanc/Cipro as should be well covered w/ Zosyn and no culture data
   or clear source.
   - ID following, appreciate recs.
   - no drainage per hepatic catheter
   - monitor abd distention
   -monitor UOP, if drops below 100 give lasix IV bolus
   -hemodynamically stable with UOP approx 12-15cc /hr
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : Initially flash pulmonary now with VAP given CXR and increasing vent
   requirements. Added vancomycin/cipro  to antibiotic regimen. Cultures
   have been negative so far. CXR appears worse from yesterday. Was unable
   to extubate yesterday as did not tolerate PS 5/0 for very long. Was
   rested on AC overnight. We will continue to wean off the vent and
   extubate today if he does better. ABG this am on .40 FiO2 shows O2 of
   63, FiO2 now at 50%.  Sputum and Mini BAL cx NG-final. Neg GM stain.
   Xray this am shows some worsening compared to yesterday.
   -Repeat ABG this am
   - on CMV, continue to wean as tolerated
   - consider repeat BAL if spikes
   - Stopped Vanc/Cipro (as above), will continue Zosyn, which should
   cover both the Klebsiella as well as many lung pathogen
   - Consider checking NIFF
   - Lasix 40mg IV x1 and Lasix drip to continue diuresis to improve
   respiratory status given worsening xray
   .
   # Tachycardia: HR has been well controlled for past day. Previous
   appeared to be sinus tachycardia, as responded slightly to carotid
   massage.  Has had multiple episodes of HTN accompanying the tachycardia
   which improves with lopressor as well as increase in sedation. Has done
   well with coreg thus far, and may have room to increase today. Given
   his anemia, we will hold off on increasing B-blocker until he has
   settled out after transfusion and BPs stabilize.
   -coreg [**Hospital1 **], consider increase in dose
   -lasix IV bolus and drip today if BP is stable
   .
   # Liver abscess. Post-drain placement by IR. Currently continuing broad
   spectrum antibiotics for Klebsiella, anaerobes and usual GI infectious
   sources, although no other species have grown on culture.  Drain has
   not had any significant output in the last 48hrs.
   - Continue broad spectrum antibiotics
   - Echinococcus negative, amoeba pending
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Had some  improvement with fluid resuscitation. Will
   continue to monitor Cr and treat fluid overload w/ lasix as tolerated.
   Cr stable at 2.1 for past 3 days
   - IVF as above
   - follow UOP, lasix boluse and drip today
   -monitor creatinine
   -renally dose meds
   .
   # Anemia. Likely anemia of chronic disease. However given his steady
   decline (today 20) will transfuse 2U, with bolus lasix IV to avoid
   fluid overload and worsening pulmonary edema. Of note he continues to
   be very fluid overloaded so some of his anemia may be secondary to
   dilution from massive fluid resuscitation.  Does not appear to be
   actively bleeding at this time, hemolysis labs are negative and retic
   count is 5.5%.  Transfused 2 units PRBCs yesterday with HCT increase
   from 20.5 to 28.0, 25.8 this am.
   - PM HCT to trend
   - Active type and screen good until : [**2109-11-15**]
   -20mg IV lasix prn
   .
   # NSTEMI: Thought to be likely to demand ischemia in setting of sepsis,
   with rising troponins on admission but questionable changes on EKG.
   This could also have been falsely elevated by his acute renal failure
   and poor clearance of troponins/CK. Recent  EKG changes in the setting
   of tachycardia, which have resolved and may be due to demand ischemia.
   On aspirin, low dose coreg.  Tropins appeared to have stabilized or
   started to decrease at 0.81 from 0.84, have not been trended further.
   -81mg ASA daily
   -coreg [**Hospital1 **]
   -monitor on tele, EKG if concern
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - coreg as above
   .
   # PVD. On aspirin only.
   .
   # HYPERGLYCEMIA
 Received Lantus 10 last night, with sugars this am
   150-160 this am.
   -Start ISS and adjust for tight control.
   - Increase Lantus to 20 qhs.
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: TF, place NG in case he is extubated, lytes prn.
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: L-IJ- mild erythema at site.  A line.
   - Pt will need to have IJ removed soon. PICC attempted at bed by
   PICC/IV team, unable to pass
   - PICC line to be placed by IR today
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
   .
   # Dispo: ICU plan on extubation
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-14**] 03:58 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   PICC Line - [**2109-11-13**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-15 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2109-11-14**] 09:13 PM
   Lasix 20IV in am no response, 20IV in afternoon no response. 40IV in
   evening, good response. 40IV again at night.
   Kept on PSV 5/5 all day and most of evening.
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2109-11-12**] 01:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-15**] 12:07 AM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2109-11-14**] 06:42 PM
   Pantoprazole (Protonix) - [**2109-11-14**] 08:00 PM
   Furosemide (Lasix) - [**2109-11-14**] 09:11 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-14**] 10:30 PM
   Fentanyl - [**2109-11-15**] 03:00 AM
   Dextrose 50% - [**2109-11-15**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-15**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 80 (72 - 87) bpm
   BP: 141/37(66) {89/24(41) - 151/56(88)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.6 kg (admission): 66 kg
   Height: 62 Inch
             Total In:
                                                                  2,617 mL
                                                                    264 mL
   PO:
             TF:
                                                                  1,200 mL
   IVF:
                                                                    757 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  3,785 mL
                                                                  1,880 mL
   Urine:
                                                                  3,785 mL
                                                                  1,430 mL
   NG:
   Stool:
   450 mL
   Drains:
   Balance:
                                                                 -1,168 mL
                                                                 -1,616 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 607 (133 - 607) mL
   PS : 12 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 49
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.46/46/80/33/7 -> 7.45/51/60/37
   Ve: 10.4 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Gen: sedated, intubated, opened eyes to voice and responding to
   commands.
   HEENT: MMM anicteric, sceral edema BL.Small ~1-2mm., L-IJ site c/d/I,
   no erythema
   CV: RRR S1S2 no m/r/g
   PULM: CTA bilaterally, no r/r/w
   ABD: distended, tympanitic, no grimace w/palpation, + bs, dressing
   c/d/I on hepatic drain. Scant fluid in bag. Tan, clear. No output at
   all per nursing.
   Ext: warm ext , DP 2+
   NEUR: able to move all extremities
   Labs / Radiology
   530 K/uL
   9.5 g/dL
   80 mg/dL
   2.0 mg/dL
   33 mEq/L
   3.8 mEq/L
   26 mg/dL
   97 mEq/L
   138 mEq/L
   28.0 %
   10.0 K/uL
        [image002.jpg]
                            [**2109-11-12**]  10:22 PM
                            [**2109-11-13**]  04:05 AM
                            [**2109-11-13**]  04:23 AM
                            [**2109-11-13**]  12:05 PM
                            [**2109-11-13**]  04:44 PM
                            [**2109-11-14**]  12:30 AM
                            [**2109-11-14**]  03:45 AM
                            [**2109-11-14**]  01:55 PM
                            [**2109-11-14**]  05:33 PM
                            [**2109-11-15**]  03:20 AM
   WBC
   12.2
   11.4
   11.7
   10.0
   Hct
   28.0
   25.8
   29.6
   28.0
   Plt
   466
   420
   543
   530
   Cr
   2.1
   2.1
   2.0
   1.9
   1.9
   2.0
   TCO2
   31
   34
   32
   31
   34
   Glucose
   [**Telephone/Fax (3) 4622**]68
   151
   80
   Other labs: PT / PTT / INR:12.3/31.9/1.0, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:14/25, Alk Phos / T Bili:107/1.5,
   Amylase / Lipase:59/25, Differential-Neuts:83.8 %, Lymph:10.5 %,
   Mono:2.4 %, Eos:3.2 %, Fibrinogen:648 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.3 g/dL, LDH:282 IU/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESOLVED.  Klebsiella
   Bacteremia, Liver abscess
   : Pansensitive Klebsiella grew in blood (both from [**Hospital1 19**] and OSH
   samples). Remainder of workup has been negative. Off pressors at this
   point with good UOP in response to Lasix 40 IV x 2 yesterday. WBC has
   been trending down last 4 days 13-12-11, 10, and now afebrile > 72
   hours. Initially on Vanc and Cipro, both dc
d [**2109-11-13**] as no clear
   culture data, and lung pathogens most likely well covered by zosyn.
   - continue Zosyn for 3 weeks for liver abscess
   - ID following, appreciate recs.
   - no drainage per hepatic catheter, will reimage today with RUQ US and
   talk to IR about removal.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : Initially flash pulmonary  with possible VAP given CXR and increasing
   vent requirements, vancomycin/cipro were added to antibiotic regimen.
   Cultures have been negative so far. Vanc/Cipro stopped [**2109-11-13**]. CXR
   initially worsened with more edema then improved today with good
   diuresis yesterday.  Sputum and Mini BAL cx NG-final. Neg GM stain.
   Will diurese more today with goal of -1-2L.  Respiratory status
   improved. Tolerated PSV 5/5 for most of yesterday. On [**10-25**] at night.
   - Decrease sedation and attempt extubation today.
   - Nitro drip and beta blocker at bedside for per-extubation
   hypertension/tachycardia.
   - continue Zosyn, which should cover both the Klebsiella as well as
   many lung pathogen
   - Diurese again today with Lasix 40IV x1
   .
   # Tachycardia: HR has been well controlled for > than 2 days. Previous
   appeared to be sinus tachycardia, as responded slightly to carotid
   massage.  Had multiple episodes of HTN accompanying the tachycardia
   which improves with lopressor as well as increase in sedation. Has done
   well with coreg thus far, and may have room to increase today.
   -coreg [**Hospital1 **], consider increase in dose as tolerated by BPs
   .
   # Liver abscess. Post-drain placement by IR. Currently continuing zosyn
   for Klebsiella, anaerobes and usual GI infectious sources, although no
   other species have grown on culture.  Drain has not had any significant
   output in the last 72hrs.
   - Continue zosyn
   - reimage today with RUQ US,
   - discuss drain removal with IR and ID
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Had some  improvement with fluid resuscitation. Will
   continue to monitor Cr and treat fluid overload w/ lasix as tolerated.
   Cr stable at 1.9-2.1 for past 4 days, improved to 2.0 today
   - IVF as above
   - follow UOP, lasix today
   -monitor creatinine, lytes
   -renally dose meds
   .
   # Anemia. Likely anemia of chronic disease. Pt had steady decline to
   nadir of 20 and was transfused 2 units PRBC, with bolus lasix IV. Some
   of anemia may have been dilutional 2ndary to fluid resuscitation. Does
   not appear to be actively bleeding at this time, hemolysis labs are
   negative and retic count is 5.5%.  HCTs have been stable x 3 days since
   transfusion.
   - Maintain active type and screen.
   .
   # ? NSTEMI: Thought to be likely to demand ischemia in setting of
   sepsis, with rising troponins on admission but questionable changes on
   EKG. This could also have been falsely elevated by his acute renal
   failure and poor clearance of troponins/CK. Recent  EKG changes in the
   setting of tachycardia, which have resolved and may be due to demand
   ischemia. On aspirin, low dose coreg.  Tropins appeared to have
   stabilized or started to decrease at 0.81 from 0.84, have not been
   trended further.
   -81mg ASA daily
   -coreg [**Hospital1 **]
   -monitor on tele, EKG if concern
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - coreg as above
   .
   # PVD. On aspirin only.
   .
   # HYPERGLYCEMIA
 On Lantus 20 qhs, with good control. Dose halved last
   night with NPO at midnight for likely extubation. Pt had FS of 50
   overnight and received 1amp of D5.
   - continue RISS
   - continue Lantus, 10qhs while NPO, and 20 when taking Pos again
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: TF, place NG in case he is extubated, lytes prn.
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: PICC line in place and  A line.  L
IJ was removed yesterday,
   small amount of erythema at site has resolved
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
   .
   # Dispo: ICU plan on extubation today.
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   PICC Line - [**2109-11-13**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-16 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2109-11-15**] 09:10 AM
   belly
 INVASIVE VENTILATION - STOP [**2109-11-15**] 03:36 PM
 NON-INVASIVE VENTILATION - START [**2109-11-15**] 07:02 PM
   extubated
   -hypertensive, started hydral and imdur overnight while titrating back
   on nitro drip (given to help w/pulm edema post-ext)
   -2 ABGs showing PO2 in 50s, but SO2 97-100%.
   -lasix 40mg IV to help w/diuresis
   -held TF overnight to allow for non-invasive
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-15**] 11:38 AM
   Infusions:
   Nitroglycerin - 0.1 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2109-11-15**] 09:49 AM
   Metoprolol - [**2109-11-15**] 05:21 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-15**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-16**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.3
   HR: 97 (69 - 97) bpm
   BP: 161/304(81) {95/34(52) - 184/304(175)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.6 kg (admission): 66 kg
   Height: 62 Inch
             Total In:
                                                                    669 mL
                                                                     35 mL
   PO:
                                                                     40 mL
             TF:
   IVF:
                                                                    409 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  4,350 mL
                                                                    205 mL
   Urine:
                                                                  3,900 mL
                                                                    205 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                 -3,681 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 724 (431 - 724) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 15 cmH2O
   SpO2: 94%
   ABG: 7.49/43/81.[**Numeric Identifier 218**]/29/8
   Ve: 13.3 L/min
   PaO2 / FiO2: 162
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   543 K/uL
   9.7 g/dL
   111 mg/dL
   1.9 mg/dL
   29 mEq/L
   4.3 mEq/L
   27 mg/dL
   98 mEq/L
   136 mEq/L
   28.9 %
   9.2 K/uL
        [image002.jpg]
                            [**2109-11-15**]  07:04 AM
                            [**2109-11-15**]  01:18 PM
                            [**2109-11-15**]  03:06 PM
                            [**2109-11-15**]  03:08 PM
                            [**2109-11-15**]  04:28 PM
                            [**2109-11-15**]  05:36 PM
                            [**2109-11-15**]  05:49 PM
                            [**2109-11-15**]  06:35 PM
                            [**2109-11-15**]  08:57 PM
                            [**2109-11-16**]  03:00 AM
   WBC
   9.2
   Hct
   27.1
   28.9
   Plt
   543
   Cr
   1.9
   1.9
   TCO2
   36
   39
   36
   37
   36
   35
   35
   34
   Glucose
   76
   111
   Other labs: PT / PTT / INR:13.2/32.0/1.1, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:14/25, Alk Phos / T Bili:107/1.5,
   Amylase / Lipase:59/25, Differential-Neuts:79.2 %, Lymph:10.3 %,
   Mono:4.3 %, Eos:5.7 %, Fibrinogen:648 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.3 g/dL, LDH:282 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESOLVED.  Klebsiella
   Bacteremia, Liver abscess
   : Pansensitive Klebsiella grew in blood (both from [**Hospital1 19**] and OSH
   samples). Remainder of workup has been negative. Off pressors at this
   point with good UOP in response to Lasix 40 IV x 2 yesterday. WBC has
   been trending down last 4 days 13-12-11, 10, and now afebrile > 72
   hours. Initially on Vanc and Cipro, both dc
d [**2109-11-13**] as no clear
   culture data, and lung pathogens most likely well covered by zosyn.
   - continue Zosyn for 3 weeks for liver abscess
   - ID following, appreciate recs.
   - no drainage per hepatic catheter, will reimage today with RUQ US and
   talk to IR about removal.
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : Initially flash pulmonary  with possible VAP given CXR and increasing
   vent requirements, vancomycin/cipro were added to antibiotic regimen.
   Cultures have been negative so far. Vanc/Cipro stopped [**2109-11-13**]. CXR
   initially worsened with more edema then improved today with good
   diuresis yesterday.  Sputum and Mini BAL cx NG-final. Neg GM stain.
   Will diurese more today with goal of -1-2L.  Respiratory status
   improved. Tolerated PSV 5/5 for most of yesterday. On [**10-25**] at night.
   - Decrease sedation and attempt extubation today.
   - Nitro drip and beta blocker at bedside for per-extubation
   hypertension/tachycardia.
   - continue Zosyn, which should cover both the Klebsiella as well as
   many lung pathogen
   - Diurese again today with Lasix 40IV x1
   .
   # Tachycardia: HR has been well controlled for > than 2 days. Previous
   appeared to be sinus tachycardia, as responded slightly to carotid
   massage.  Had multiple episodes of HTN accompanying the tachycardia
   which improves with lopressor as well as increase in sedation. Has done
   well with coreg thus far, and may have room to increase today.
   -coreg [**Hospital1 **], consider increase in dose as tolerated by BPs
   .
   # Liver abscess. Post-drain placement by IR. Currently continuing zosyn
   for Klebsiella, anaerobes and usual GI infectious sources, although no
   other species have grown on culture.  Drain has not had any significant
   output in the last 72hrs.
   - Continue zosyn
   - reimage today with RUQ US,
   - discuss drain removal with IR and ID
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Had some  improvement with fluid resuscitation. Will
   continue to monitor Cr and treat fluid overload w/ lasix as tolerated.
   Cr stable at 1.9-2.1 for past 4 days, improved to 2.0 today
   - IVF as above
   - follow UOP, lasix today
   -monitor creatinine, lytes
   -renally dose meds
   .
   # Anemia. Likely anemia of chronic disease. Pt had steady decline to
   nadir of 20 and was transfused 2 units PRBC, with bolus lasix IV. Some
   of anemia may have been dilutional 2ndary to fluid resuscitation. Does
   not appear to be actively bleeding at this time, hemolysis labs are
   negative and retic count is 5.5%.  HCTs have been stable x 3 days since
   transfusion.
   - Maintain active type and screen.
   .
   # ? NSTEMI: Thought to be likely to demand ischemia in setting of
   sepsis, with rising troponins on admission but questionable changes on
   EKG. This could also have been falsely elevated by his acute renal
   failure and poor clearance of troponins/CK. Recent  EKG changes in the
   setting of tachycardia, which have resolved and may be due to demand
   ischemia. On aspirin, low dose coreg.  Tropins appeared to have
   stabilized or started to decrease at 0.81 from 0.84, have not been
   trended further.
   -81mg ASA daily
   -coreg [**Hospital1 **]
   -monitor on tele, EKG if concern
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - coreg as above
   .
   # PVD. On aspirin only.
   .
   # HYPERGLYCEMIA
 On Lantus 20 qhs, with good control. Dose halved last
   night with NPO at midnight for likely extubation. Pt had FS of 50
   overnight and received 1amp of D5.
   - continue RISS
   - continue Lantus, 10qhs while NPO, and 20 when taking Pos again
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: TF, place NG in case he is extubated, lytes prn.
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: PICC line in place and  A line.  L
IJ was removed yesterday,
   small amount of erythema at site has resolved
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
   .
   # Dispo: ICU plan on extubation today.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2109-11-4**] 12:00 AM
   PICC Line - [**2109-11-13**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-17 05:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2109-11-16**] 12:25 PM
   O2 sats and paO2 better. Diuresed to lasix 40 IV x 1 in am
   Abdominal drain not removed although IR Attg had said would remove;
   will need to readdress
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-15**] 11:38 AM
   Piperacillin - [**2109-11-16**] 11:52 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-11-16**] 12:15 PM
   Pantoprazole (Protonix) - [**2109-11-16**] 08:24 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-16**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-17**] 05:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36
C (96.8
   HR: 92 (81 - 98) bpm
   BP: 153/51(75) {128/38(61) - 157/73(91)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.6 kg (admission): 66 kg
   Height: 62 Inch
             Total In:
                                                                    633 mL
                                                                    362 mL
   PO:
             TF:
                                                                    246 mL
                                                                    186 mL
   IVF:
                                                                    237 mL
                                                                     26 mL
   Blood products:
   Total out:
                                                                  2,308 mL
                                                                    150 mL
   Urine:
                                                                  2,308 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,675 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   RR (Spontaneous): 22
   FiO2: 50%
   SpO2: 96%
   ABG: 7.51/36/91.[**Numeric Identifier 143**]/33/5
   PaO2 / FiO2: 184
   Physical Examination
   Gen: Awake, alert, responsive to questions, denies pain
   HEENT: nc/at. MM slightly dry. PERRL
   CV: RRR. No m/r/h
   Resp: CTAB
   Abd:Soft. NT/ND. Drain in place. +BS
   Ext: mild cyanosis. No clubbing/edema.
   Labs / Radiology
   631 K/uL
   9.3 g/dL
   177 mg/dL
   2.0 mg/dL
   33 mEq/L
   3.6 mEq/L
   27 mg/dL
   98 mEq/L
   137 mEq/L
   27.9 %
   7.7 K/uL
        [image002.jpg]
                            [**2109-11-15**]  03:08 PM
                            [**2109-11-15**]  04:28 PM
                            [**2109-11-15**]  05:36 PM
                            [**2109-11-15**]  05:49 PM
                            [**2109-11-15**]  06:35 PM
                            [**2109-11-15**]  08:57 PM
                            [**2109-11-16**]  03:00 AM
                            [**2109-11-16**]  11:31 AM
                            [**2109-11-16**]  01:40 PM
                            [**2109-11-17**]  04:15 AM
   WBC
   9.2
   7.7
   Hct
   28.9
   27.9
   Plt
   543
   631
   Cr
   1.9
   1.8
   2.0
   TCO2
   36
   37
   36
   35
   35
   34
   30
   Glucose
   111
   137
   177
   Other labs: PT / PTT / INR:13.2/32.0/1.1, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:[**8-5**], Alk Phos / T Bili:86/1.4,
   Amylase / Lipase:59/25, Differential-Neuts:68.7 %, Lymph:15.5 %,
   Mono:6.9 %, Eos:7.9 %, Fibrinogen:648 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:191 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESOLVED.  Klebsiella
   Bacteremia, Liver abscess
   : Pansensitive Klebsiella grew in blood (both from [**Hospital1 19**] and OSH
   samples). Remainder of workup has been negative. Off pressors at this
   point with good UOP in response to Lasix 40 IV x 2 yesterday. WBC has
   been trending down last 4 days 13-12-11, 10, and now afebrile > 72
   hours. Initially on Vanc and Cipro, both dc
d [**2109-11-13**] as no clear
   culture data, and lung pathogens most likely well covered by zosyn.
   - continue Zosyn (Day 14) for 3 weeks for liver abscess
   - ID following, appreciate recs
   - no drainage per hepatic catheter, reimaged and fluid collection
   resolved
   - pull drain TODAY
   .
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   : Initially flash pulmonary  with possible VAP given CXR and increasing
   vent requirements, vancomycin/cipro were added to antibiotic regimen.
   Cultures have been negative so far. Vanc/Cipro stopped [**2109-11-13**]. CXR
   initially worsened with more edema then improved today with good
   diuresis yesterday.  Sputum and Mini BAL cx NG-final. Neg GM stain.
   Will diurese more today with goal of -1-2L.  Respiratory status
   improved. Tolerated PSV 5/5 for most of yesterday. On [**10-25**] at night.
   - Decrease sedation and attempt extubation today.
   - Nitro drip and beta blocker at bedside for per-extubation
   hypertension/tachycardia.
   - continue Zosyn, which should cover both the Klebsiella as well as
   many lung pathogen
   - Diurese again today with Lasix 40IV x1, follow O2 sats
   - Check abg then pull A line
   .
   # Tachycardia: HR has been well controlled for > than 2 days. Previous
   appeared to be sinus tachycardia, as responded slightly to carotid
   massage.  Had multiple episodes of HTN accompanying the tachycardia
   which improves with lopressor as well as increase in sedation. Has done
   well with coreg thus far, and may have room to increase today.
   -coreg [**Hospital1 **], consider increase in dose as tolerated by BPs
   .
   # Liver abscess. Post-drain placement by IR. Currently continuing zosyn
   for Klebsiella, anaerobes and usual GI infectious sources, although no
   other species have grown on culture.  Drain has not had any significant
   output in the last 72hrs.
   - Continue zosyn
   - discuss drain removal with IR
   - appreciate ID recs
   .
   # HTN: Currently normotensive on hydral, carvedilol. Off Nitro gtt.
   .
   # RENAL FAILURE, ACUTE: Likely related to overwhelming infection and
   hypovolemia. Had some  improvement with fluid resuscitation. Will
   continue to monitor Cr and treat fluid overload w/ lasix as tolerated.
   Cr stable at 1.9-2.1 for past 4 days, improved to 2.0 today
   - IVF as above
   - follow UOP, lasix today
   -monitor creatinine, lytes
   -renally dose meds
   .
   # Anemia. Likely anemia of chronic disease. Pt had steady decline to
   nadir of 20 and was transfused 2 units PRBC, with bolus lasix IV. Some
   of anemia may have been dilutional 2ndary to fluid resuscitation. Does
   not appear to be actively bleeding at this time, hemolysis labs are
   negative and retic count is 5.5%.  HCTs have been stable x 3 days since
   transfusion.
   - Maintain active type and screen.
   .
   # ? NSTEMI: Thought to be likely to demand ischemia in setting of
   sepsis, with rising troponins on admission but questionable changes on
   EKG. This could also have been falsely elevated by his acute renal
   failure and poor clearance of troponins/CK. Recent  EKG changes in the
   setting of tachycardia, which have resolved and may be due to demand
   ischemia. On aspirin, low dose coreg.  Tropins appeared to have
   stabilized or started to decrease at 0.81 from 0.84, have not been
   trended further.
   -81mg ASA daily
   -coreg [**Hospital1 **]
   -monitor on tele, EKG if concern
   .
   # Chronic systolic CHF, EF 40%: [**11-4**] Echo showed normal LA/RA, LV wall
   thicknesses and cavity size; moderate regional LV systolic dysfunction
   with severe hypokinesis of the distal half of the septum and anterior
   walls. The distal inferior wall and apex are akinetic. LVEF = 30-35 %
   Mild to moderate ([**11-21**]+) mitral regurgitation, moderate pulmonary artery
   systolic hypertension.
   -restarted ASA
   - coreg as above
   .
   # PVD. On aspirin only.
   .
   # HYPERGLYCEMIA
 On Lantus 20 qhs, with good control. Dose halved last
   night with NPO at midnight for likely extubation. Pt had FS of 50
   overnight and received 1amp of D5.
   - continue RISS
   - continue Lantus, 10qhs while NPO, and 20 when taking Pos again
   .
   # Gout. Hold home allopurinol.
   .
   # FEN: TF via NGT, lytes prn, S/S eval.
   .
   # Prophylaxis: PPI, Pneumoboots. Heparin sc
   .
   # Access: PICC line in place and  A line (will remove).
   .
   # Contact: Wife [**Name (NI) 4332**] [**Name (NI) 823**] (h) [**Telephone/Fax (1) 4333**], Son [**Name (NI) 478**] [**Name (NI) 823**] (h)
   [**Telephone/Fax (1) 4333**], (c) [**Telephone/Fax (1) 4334**].
   .
   # Code: FULL
   .
   # Dispo: ICU plan on extubation today.
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 HYPERGLYCEMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-16**] 11:52 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2109-11-13**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-18 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2109-11-17**] 05:42 PM
   - Goal of I=0, pt was +500 yesterday
   - 02 weaned down on High-Flow
   The patient has no complaints currently.
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2109-11-16**] 11:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-18**] 06:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-17**] 08:25 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-17**] 10:00 PM
   Other medications:
   Carvedilol 25mg [**Hospital1 7**]
   Hydralazine 25mg Q6H
   Imdur 30mg QD
   Insulin SS
   Albuterol PRN
   ASA 81mg QD
   Pantoprazole 40mg QD
   Hep SC TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-18**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 75 (75 - 96) bpm
   BP: 135/49(70) {128/47(70) - 169/66(91)} mmHg
   RR: 24 (10 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.3 kg (admission): 66 kg
   Height: 62 Inch
             Total In:
                                                                  1,868 mL
                                                                    807 mL
   PO:
             TF:
                                                                  1,088 mL
                                                                    352 mL
   IVF:
                                                                    430 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    375 mL
   Urine:
                                                                  1,275 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    593 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///29/
   Physical Examination
   Gen: Alert and Oriented x3
   HEENT: PERRLA, EOMI,  MMM
   CV: S1S2. 2/6 SEM
   Resp: CTAB coarse BS
   Abd:Soft. NT/ND. Drain in place without visible drainage or erythema.
   +BS
   Ext: mild cyanosis. No clubbing/edema.
   Labs / Radiology
   644 K/uL
   9.5 g/dL
   118 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   27.8 %
   9.2 K/uL
        [image002.jpg]
                            [**2109-11-15**]  04:28 PM
                            [**2109-11-15**]  05:36 PM
                            [**2109-11-15**]  05:49 PM
                            [**2109-11-15**]  06:35 PM
                            [**2109-11-15**]  08:57 PM
                            [**2109-11-16**]  03:00 AM
                            [**2109-11-16**]  11:31 AM
                            [**2109-11-16**]  01:40 PM
                            [**2109-11-17**]  04:15 AM
                            [**2109-11-18**]  04:11 AM
   WBC
   9.2
   7.7
   9.2
   Hct
   28.9
   27.9
   27.8
   Plt
   543
   631
   644
   Cr
   1.9
   1.8
   2.0
   1.8
   TCO2
   37
   36
   35
   35
   34
   30
   Glucose
   111
   137
   177
   118
   Other labs: PT / PTT / INR:13.2/32.0/1.1, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:[**8-5**], Alk Phos / T Bili:86/1.4,
   Amylase / Lipase:59/25, Differential-Neuts:68.7 %, Lymph:15.5 %,
   Mono:6.9 %, Eos:7.9 %, Fibrinogen:648 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:191 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   84M with resolving Klebsiella Liver Abcess/Bacteremia, acute on chronic
   CHF, resolving respiratory failure, prior NSTEMI.
   #  Klebsiella Bacteremia, Liver abscess: On Day 16 of Zosyn. Pt remains
   afebrile without leukocytosis. No drainage from the pigtail tube,
   Cross-sectional radiology to likely remove the drain today given
   decrease in fluid output.
   - Cont Zosyn (Day 16) for 3 weeks for liver abscess
   - will continue to f/u ID Recs
   .
   # Hypoxemic Respiratory Failure: Pt remains extubated now on Aerosol
   Mask at 50%, currently in no acute distress. Was diuresed with 40 IV
   Lasix with associated rise in Cr. Pt now LOS up 3L however over two
   week hospital course does not take into account insensible losses.
   - Follow strict I=Os
   - Wean O2 as tolerated
   - OOB to chair as tolerated.
   .
   # HTN: Normotensive on hydral, carvedilol. Off Nitro gtt.
   - Will continue on Carvedilol to 25mg [**Hospital1 7**]
   .
   # ARF: Cr improved today from 2.0 to 1.8, increased in the setting of
   diuresis,  Will continue to monitor I/Os with goal of 500+ today.
   monitor creatinine, lytes
   - renally dose meds
   .
   # Anemia. Hct much improved at 27.8 today.  Will continue to monitor
   Although pt had NSTEMI, given fluid overload, decision was made not to
   give blood today
   .
   # Chronic systolic CHF, EF 40%:
   - Continue ASA and Carvedilol 25mg [**Hospital1 7**]
   .
   # PVD. Continue ASA
   .
   # HYPERGLYCEMIA
 On Lantus 20 qhs, with good control.
   - continue RISS
   .
   # Gout. Hold home Allopurinol.
   .
   # Speech and Swallow Evaluation (Ordered)  Pending PT evaluation as
   well
 HYPERTENSION, BENIGN
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2109-11-18**] 03:21 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2109-11-13**] 04:00 PM
   Prophylaxis:
   DVT: Heparin SC TID
   Stress ulcer:
   Communication:  Comments:
   Code status:
   Disposition:

2109-11-18 11:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2109-11-17**] 05:42 PM
   Weaned off high flow O2
   Hemodynamically stable
   Allergies:
   Hydrochlorothiazide
   Rash;
   Last dose of Antibiotics:
   Piperacillin - [**2109-11-16**] 11:52 AM
   Piperacillin/Tazobactam (Zosyn) - [**2109-11-18**] 06:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2109-11-17**] 08:25 PM
   Heparin Sodium (Prophylaxis) - [**2109-11-17**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-18**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 92 (75 - 99) bpm
   BP: 151/56(80) {134/47(70) - 176/66(91)} mmHg
   RR: 21 (19 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 67.3 kg (admission): 66 kg
   Height: 62 Inch
             Total In:
                                                                  1,868 mL
                                                                  1,087 mL
   PO:
             TF:
                                                                  1,088 mL
                                                                    592 mL
   IVF:
                                                                    430 mL
                                                                    245 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    580 mL
   Urine:
                                                                  1,275 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    593 mL
                                                                    507 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///29/
   Physical Examination
    Gen: sitting up in bed
   CV: RR
   Chest: good air movem,ent dimished BS at bases
   Abd: soft NT +BS IR drain in place and CDI
   Ext: 1+ edema
   Neuro: nonfocal
   Labs / Radiology
   9.5 g/dL
   644 K/uL
   118 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   138 mEq/L
   27.8 %
   9.2 K/uL
        [image002.jpg]
                            [**2109-11-15**]  04:28 PM
                            [**2109-11-15**]  05:36 PM
                            [**2109-11-15**]  05:49 PM
                            [**2109-11-15**]  06:35 PM
                            [**2109-11-15**]  08:57 PM
                            [**2109-11-16**]  03:00 AM
                            [**2109-11-16**]  11:31 AM
                            [**2109-11-16**]  01:40 PM
                            [**2109-11-17**]  04:15 AM
                            [**2109-11-18**]  04:11 AM
   WBC
   9.2
   7.7
   9.2
   Hct
   28.9
   27.9
   27.8
   Plt
   543
   631
   644
   Cr
   1.9
   1.8
   2.0
   1.8
   TCO2
   37
   36
   35
   35
   34
   30
   Glucose
   111
   137
   177
   118
   Other labs: PT / PTT / INR:13.2/32.0/1.1, CK / CKMB /
   Troponin-T:226/16/0.81, ALT / AST:[**8-5**], Alk Phos / T Bili:86/1.4,
   Amylase / Lipase:59/25, Differential-Neuts:68.7 %, Lymph:15.5 %,
   Mono:6.9 %, Eos:7.9 %, Fibrinogen:648 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:191 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 LEUKEMIA, ACUTE (ALL, AML, CANCER, MALIGNANT NEOPLASM)
 IMPAIRED SKIN INTEGRITY
 BACTEREMIA
 LIVER ABSCESS
 .H/O HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 ANEMIA, OTHER
 HYPERGLYCEMIA
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   84 yr old man with hx of Klebsiella liver abscess and CHF
   1.       Resp Distress: now extubated and on nasal cannula
   2.       Klebs bacteremia liver abscess: day 16/21 of Zosyn, no
   drainage plan for IR removal of pigtail
   3.       ARF: likely due to over diuresis yesterday
 trending down -
   goal even
   4.       HTN: stable, on po meds
   5.       Anemia: stable
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition: Fibersource HN (Full) - [**2109-11-18**] 03:21 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2109-11-13**] 04:00 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: